### PR TITLE
Metric spaces

### PR DESCRIPTION
**Pull request by malarbol**
This PR introduces the concept of metric spaces.

We introduce a new module `metric-spaces` with the following submodules:

### Premetric spaces

- `premetric-structures`: premetric structures on a type and basic properties;
- `reflexive-premetric-structures`;
- `symmetric-premetric-structures`;
- `monotonic-premetric-structures`: premetrics with upper-stable neighborhoods;
- `triangular-premetric-structures`: premetrics that satisfy a triangular inequality;
- `extensional-premetric-structures`: premetrics here indistinguishability characterizes equality;
- `closed-premetric-structures`: premetrics with closed neighborhoods;
- `discrete-premetric-structures`: premetric structure defined by mere equality;
- `induced-premetric-structures-on-preimages`: premetric induced on the domain of a map by a premetric on its codomain;
- `ordering-premetric-structures`: a partial ordering on the premetric structures on a type;
- `premetric-spaces`: types equipped with a premetric structure;
- `short-functions-premetric-spaces`: functions between premetric spaces that preserve neighborhoods;
- `isometries-premetric-spaces`: functions between premetric spaces that identify neighborhoods;
- `equality-of-premetric-spaces`: identity principle for the type of premetric spaces;
- `invertible-isometries-premetric-spaces`: another characterization of equality of premetric spaces;
- `isometric-equivalences-premetric-spaces`: another characterization of equality of premetric spaces;
- `cauchy-approximations-premetric-spaces`: the type of Cauchy approximations in a premetric space;
- `limits-of-cauchy-approximations-in-premetric-spaces`;

### Pseudometric spaces

- `pseudometric-structures`: reflexive, symmetric, and triangular premetrics;
- `pseudometric-spaces`: types equipped with a pseudometric structure;

### Metric spaces

- `metric-structures`: reflexive, symmetric, triangular, and local premetrics;
- `metric-spaces`: types equipped with a metric structure;
- `saturated-metric-spaces`: metric spaces with closed premetrics;
- `subspaces-metric-spaces`: metric structure induced on subsets of metric spaces;
- `dependent-products-metric-spaces`: metric structure on dependent families of metric spaces;
- `functions-metric-spaces`: functions between carrier types of metric spaces;
- `short-functions-metric-spaces`: short functions between the underlying premetric spaces of metric spaces;
- `isometries-metric-spaces`: isometries between the underlying premetric spaces of metric spaces;
- `equality-of-metric-spaces`: identity principle in the type of metric spaces;
- `cauchy-approximations-metric-spaces`: the type of Cauchy approximations in a metric space;
- `convergent-cauchy-approximations-metric-spaces`: the type of convergent Cauchy approximations in a metric space;
- `complete-metric-spaces`: the type of metric spaces where all Cauchy approximations are convergent;

### Example of metric spaces

- `metric-space-of-cauchy-approximations-in-a-metric-space`;
- `metric-space-of-convergent-cauchy-approximations-in-a-metric-space`;
- `metric-space-of-rational-numbers`;
- `metric-space-of-rational-numbers-with-open-neighborhoods`;

### Categories of metric spaces and functors between them

- `precategory-of-metric-spaces-and-functions`;
- `precategory-of-metric-spaces-and-isometries`;
- `precategory-of-metric-spaces-and-short-functions`;
- `category-of-metric-spaces-and-isometries`;
- `category-of-metric-spaces-and-short-functions`;
- `functor-category-set-functions-isometry-metric-spaces`;
- `functor-category-short-isometry-metric-spaces`.

We also introduce the standard metric structure on the real numbers in
`real-numbers.metric-space-of-real-numbers` and a few miscellaneous lemmas in
`elementary-number-theory` and `foundation`.

### CODE REVIEW

File: src/metric-spaces/neighbourhood-relations.lagda.md [hunk 1]
```diff
@@ -0,0 +1,228 @@
...
+### A neighbourhood-relation is tight if any two indistinguishable elements are equal
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} (B : Neighbourhood-Relation-Prop l2 A)
+  where
+
+  is-tight-Neighbourhood : UU (l1 ⊔ l2)
+  is-tight-Neighbourhood =
+    (x y : A) → is-indistinguishable-Neighbourhood B x y → x ＝ y
```
Comment (fredrik-bakke) [inline src/metric-spaces/neighbourhood-relations.lagda.md:130]: I believe the homotopy-coherent way to define a tight neighbourhood-relation is to say that the canonical map `x = y → is-indistinguishable-Neighbourhood B x y` is an equivalence, following what is written here:
https://ncatlab.org/nlab/show/metric+space#in_homotopy_type_theory

Also note the omittance of the assumption that the underlying type of points of a metric space is a set.

Comment (fredrik-bakke) [reply src/metric-spaces/neighbourhood-relations.lagda.md:130]: oh, but it follows from this that the type is a set

File: src/metric-spaces/neighbourhood-relations.lagda.md [hunk 2]
```diff
@@ -0,0 +1,228 @@
...
+
+## Definitions
+
+```agda
+module _
+  {l1 : Level} (l2 : Level) (A : UU l1)
+  where
+
+  Neighbourhood-Relation-Prop : UU (l1 ⊔ (lsuc l2))
+  Neighbourhood-Relation-Prop = ℚ⁺ → Relation-Prop l2 A
```
Comment (fredrik-bakke) [inline src/metric-spaces/neighbourhood-relations.lagda.md:35]: it doesn't seem warranted to create a namespace for `neighbourhood`s so I think the word shouldn't be capitalized here or elsewhere in your code.

File: src/metric-spaces/neighbourhood-relations.lagda.md (hunk 1 above)
Comment (malarbol) [reply src/metric-spaces/neighbourhood-relations.lagda.md:130]: > the canonical map `x = y → is-indistinguishable-Neighbourhood B x y` is an equivalence
but his map only exists if `B` is reflexive. I was trying to make these properties independent.

File: src/metric-spaces/neighbourhood-relations.lagda.md [hunk 3]
```diff
@@ -0,0 +1,228 @@
...
+module _
+  {l1 l2 : Level} {A : UU l1} (B : Neighbourhood-Relation-Prop l2 A)
+  (x y : A)
+  where
+
+  is-indistinguishable-Neighbourhood-Prop : Prop l2
+  is-indistinguishable-Neighbourhood-Prop =
+    Π-Prop ℚ⁺ (λ (d : ℚ⁺) → B d x y)
+
+  is-indistinguishable-Neighbourhood : UU l2
```
Comment (fredrik-bakke) [inline src/metric-spaces/neighbourhood-relations.lagda.md:63]: `is-indistinguishable-in-neighbourhood` is easier to understand imo

File: src/metric-spaces/neighbourhood-relations.lagda.md [hunk 4]
```diff
@@ -0,0 +1,228 @@
...
+  {l1 l2 : Level} {A : UU l1} (B : Neighbourhood-Relation-Prop l2 A)
+  where
+
+  is-reflexive-Neighbourhood-Prop : Prop (l1 ⊔ l2)
+  is-reflexive-Neighbourhood-Prop =
+    Π-Prop
+      ( ℚ⁺)
+      ( λ (d : ℚ⁺) →
+        ( is-reflexive-Relation-Prop (B d) ,
+          is-prop-is-reflexive-Relation-Prop (B d)))
```
Comment (fredrik-bakke) [inline src/metric-spaces/neighbourhood-relations.lagda.md:88]: It's good practice to define `is-reflexive-prop-Relation-Prop` for this pair and then use that definition instead. This also holds for the other predicates used in this file

File: src/metric-spaces/neighbourhood-relations.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/metric-spaces/neighbourhood-relations.lagda.md:130]: Without knowing too much about your particular scenario, I would think this is a good thing because then the converse map will compute in terms of identity induction and the reflexivity function. Alternatively, another way to keep these independent and maintain homotopy-coherence in the absence of assuming anything about the underlying type being a set, you can ask for `(x : A) → is-prop (Σ A (λ y → is-indistinguishable-Neighbourhood B x y))`

Comment (fredrik-bakke) [reply src/metric-spaces/neighbourhood-relations.lagda.md:130]: from this it follows that `x = y → is-indistinguishable-Neighbourhood B x y` is an equivalence when you have reflexivity, but it does not follow that your relation is reflexive

Comment (fredrik-bakke) [reply src/metric-spaces/neighbourhood-relations.lagda.md:130]: The proof is just an application of the fundamental theorem of identity types btw

File: src/metric-spaces/dependent-products-metric-spaces.lagda.md [hunk 5]
```diff
@@ -0,0 +1,92 @@
...
+open import metric-spaces.metric-spaces
+open import metric-spaces.neighbourhood-relations
+open import metric-spaces.sequences-metric-spaces
+```
+
+</details>
+
+## Idea
+
+Dependent products of metric spaces inherit a product metric structure
```
Comment (fredrik-bakke) [inline src/metric-spaces/dependent-products-metric-spaces.lagda.md:33]: Am I correct that the metric structure on a product is only unique up to similarity of metric structures in that there exists constants $c_1$, $c_2$, $c_3$, $c_4$ such that
$$c_1 * d(x,y) < c_2 * d'(x,y) < c_3 * d(x,y) < c_4* d'(x,y)$$

where $d$ and $d'$ are the two metric functions?

File: src/metric-spaces.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces.lagda.md:1]: This is just an idea for the future, but it would be nice to have a file constructing the underlying locale of a metric space.

File: src/metric-spaces/convergent-sequences-metric-spaces.lagda.md [hunk 6]
```diff
@@ -0,0 +1,236 @@
...
+        is-modulus-modulus-limit-Sequence-Metric-Space M u x H d₁ N
+          (leq-left-leq-max-ℕ N Nx Ny (refl-leq-ℕ N))
+
+      β : is-in-neighbourhood-Metric-Space M d₂ y (u N)
+      β =
+        is-modulus-modulus-limit-Sequence-Metric-Space M u y K d₂ N
+          (leq-right-leq-max-ℕ N Nx Ny (refl-leq-ℕ N))
+```
+
+### Two limits of a sequence in a metric space are equal
```
Comment (fredrik-bakke) [inline src/metric-spaces/convergent-sequences-metric-spaces.lagda.md:203]: Please also record that `is-limit-Sequence-Metric-Space` and `is-convergent-Sequence-Metric-Space` are propositions

File: src/metric-spaces/convergent-sequences-metric-spaces.lagda.md [hunk 7]
```diff
@@ -0,0 +1,236 @@
...
+    is-limit-Sequence-Metric-Space M u limit-Sequence-Metric-Space
+  is-limit-limit-Sequence-Metric-Space = pr2 H
+```
+
+```agda
+module _
+  {l : Level} (M : Metric-Space l)
+  where
+
+  Convergent-Sequence-Metric-Space : UU l
```
Comment (fredrik-bakke) [inline src/metric-spaces/convergent-sequences-metric-spaces.lagda.md:106]: neither `convergent` nor `sequence` should be capitalized

Comment (fredrik-bakke) [reply src/metric-spaces/convergent-sequences-metric-spaces.lagda.md:106]: remember that every entry has at most one namespace. the namespace here should be `Metric-Space`

Comment (fredrik-bakke) [reply src/metric-spaces/convergent-sequences-metric-spaces.lagda.md:106]: and `sequence` should never be a namespace because either it would just be the theory of general functions, or it would probably be in the namespace `ℕ`

File: src/metric-spaces/convergent-sequences-metric-spaces.lagda.md [hunk 8]
```diff
@@ -0,0 +1,236 @@
...
+open import metric-spaces.metric-spaces
+open import metric-spaces.neighbourhood-relations
+open import metric-spaces.sequences-metric-spaces
+```
+
+</details>
+
+## Idea
+
+Convergent sequences in metric spaces are sequences that have a limit.
```
Comment (fredrik-bakke) [inline src/metric-spaces/convergent-sequences-metric-spaces.lagda.md:36]: This explanation is a non-starter because it doesn't explain what a limit is.

File: src/metric-spaces/convergent-sequences-metric-spaces.lagda.md [hunk 9]
```diff
@@ -0,0 +1,236 @@
...
+
+## Definitions
+
+### Limits of sequences in metric spaces
```
Comment (fredrik-bakke) [inline src/metric-spaces/convergent-sequences-metric-spaces.lagda.md:40]: Limits of sequences in metric spaces should be in a separate file

File: src/metric-spaces/functions-metric-spaces.lagda.md [hunk 10]
```diff
@@ -0,0 +1,32 @@
...
+
+### Functions between metric spaces
+
+```agda
+module _
+  {l1 l2 : Level} (A : Metric-Space l1) (B : Metric-Space l2)
+  where
+
+  fun-Metric-Space : UU (l1 ⊔ l2)
+  fun-Metric-Space = type-Metric-Space A → type-Metric-Space B
```
Comment (fredrik-bakke) [inline src/metric-spaces/functions-metric-spaces.lagda.md:31]: this should probably be `function-Metric-Space`

File: src/metric-spaces/functions-metric-spaces.lagda.md [hunk 11]
```diff
@@ -0,0 +1,32 @@
...
+open import foundation.universe-levels
+
+open import metric-spaces.metric-spaces
+```
+
+</details>
+
+## Idea
+
+Functions between metric spaces are functions between their carrier types
```
Comment (fredrik-bakke) [inline src/metric-spaces/functions-metric-spaces.lagda.md:19]:
```suggestion
{{#concept "Functions" Disambiguation="between metric spaces" Agda=function-Metric-Space}} between metric spaces are (not necessarily continuous) functions between their carrier types.
```

File: src/metric-spaces/functions-metric-spaces.lagda.md (hunk 10 above)
Comment (fredrik-bakke) [reply src/metric-spaces/functions-metric-spaces.lagda.md:31]: actually, perhaps `function-carrier-type-Metric-Space` is clearer, so it can't be confused with the metric space of functions into a metric space

File: src/metric-spaces.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces.lagda.md:1]: Oh, another nice addition would be the apartness relation given by `(x # y) := (∃ (ε : ℚ⁺), (d(x,y) > ε))`

File: src/metric-spaces/cauchy-sequences-metric-spaces.lagda.md [hunk 12]
```diff
@@ -0,0 +1,123 @@
...
+open import metric-spaces.neighbourhood-relations
+open import metric-spaces.sequences-metric-spaces
+```
+
+</details>
+
+## Idea
+
+Cauchy sequences in metric spaces are sequences that satisfy the Cauchy
+criterion. This follows Definition 11.2.9 of {{#cite UF13}}.
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-sequences-metric-spaces.lagda.md:33]: Please elaborate on what the Cauchy criterion is. Consider that this explanation should be somewhat self-contained and that this might be the reader's first exposure to formalizations

File: src/metric-spaces/metric-space-of-rational-numbers.lagda.md [hunk 13]
```diff
@@ -0,0 +1,140 @@
...
+
+open import metric-spaces.metric-spaces
+open import metric-spaces.neighbourhood-relations
+```
+
+</details>
+
+## Idea
+
+The set of rational numbers can be equipped with a metric structure.
```
Comment (fredrik-bakke) [inline src/metric-spaces/metric-space-of-rational-numbers.lagda.md:37]: In fact, there are infinitely many metric structures, but only two up to similarity. This should probably be elaborated upon in the idea section. Which metric structure are you constructing in this module?

File: src/metric-spaces/pointwise-continuity-functions-metric-spaces.lagda.md [hunk 14]
```diff
@@ -0,0 +1,139 @@
+# Pointwise continuity oequ functions between metric spaces
```
Comment (fredrik-bakke) [inline src/metric-spaces/pointwise-continuity-functions-metric-spaces.lagda.md:1]: typo

File: src/metric-spaces/uniform-continuity-functions-metric-spaces.lagda.md [hunk 15]
```diff
@@ -0,0 +1,150 @@
...
+
+  is-continuity-modulus-continuity-modulus-fun-Metric-Space :
+    is-continuity-modulus-fun-Metric-Space A B f ε
+      continuity-modulus-fun-Metric-Space
+  is-continuity-modulus-continuity-modulus-fun-Metric-Space = pr2 (H ε)
+```
+
+## Properties
+
+### Uniformly continuous functions are continuous at every points
```
Comment (fredrik-bakke) [inline src/metric-spaces/uniform-continuity-functions-metric-spaces.lagda.md:68]: typo

File: src/metric-spaces/uniform-continuity-functions-metric-spaces.lagda.md [hunk 16]
```diff
@@ -0,0 +1,150 @@
...
+module _
+  {l : Level} (A : Metric-Space l)
+  where
+
+  is-uniformly-continuous-id-Metric-Space :
+    is-uniformly-continuous-fun-Metric-Space A A id
+  is-uniformly-continuous-id-Metric-Space ε = (ε , λ x y H → H)
+```
+
+### The composition of uniformly continuous functions is uniformly continuous
```
Comment (fredrik-bakke) [inline src/metric-spaces/uniform-continuity-functions-metric-spaces.lagda.md:111]: So metric spaces and uniformly continuous functions form a large precategory. It's worthwhile to record a module `metric-spaces.precategory-of-uniformly-continuous-functions` with this fact and also add it to our list in `category-theory`.

Comment (fredrik-bakke) [reply src/metric-spaces/uniform-continuity-functions-metric-spaces.lagda.md:111]: Is this precategory univalent? I.e., does invertible uniformly continuous functions characterize identity of metric spaces?

File: src/metric-spaces/pointwise-continuity-functions-metric-spaces.lagda.md [hunk 17]
```diff
@@ -0,0 +1,139 @@
...
+          ( is-limit-Convergent-Sequence-Metric-Space A u)
+          ( pt-continuity-modulus-fun-Metric-Space A B f
+            ( limit-Convergent-Sequence-Metric-Space A u)
+            ( H)
+            ( d))
+          ( n)
+          ( K)))
+```
+
+### The composition of pointwise continuous functions is pointwise continuous
```
Comment (fredrik-bakke) [inline src/metric-spaces/pointwise-continuity-functions-metric-spaces.lagda.md:110]: Here also it'd be nice to add a file `metric-spaces.precategory-of-metric-spaces-and-pointwise-continuous-functions`

File: src/metric-spaces/uniform-continuity-functions-metric-spaces.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [reply src/metric-spaces/uniform-continuity-functions-metric-spaces.lagda.md:111]: From briefly reading up on the $n$Lab, it seems like the "real" category of metric spaces is metric spaces and [short maps](https://ncatlab.org/nlab/show/short+map). I would be very curious to hear whether this category is univalent, so that's something else to think about. 🙃 If so, the univalence condition should in one sense pick out metric spaces among "pseudometric spaces", i.e. those that do not satisfy the separation axiom you added.

Comment (fredrik-bakke) [reply src/metric-spaces/uniform-continuity-functions-metric-spaces.lagda.md:111]: This is not at all a requirement so feel free to ignore this comment, but it wouldn't hurt to have a separate file about pseudometric spaces and define metric spaces as those that satisfy the separation axiom, much like one defines posets as antisymmetric preorders.

File: src/metric-spaces/apartness-relation-metric-spaces.lagda.md [hunk 18]
```diff
@@ -0,0 +1,102 @@
...
+
+</details>
+
+## Idea
+
+Two elements `x` and `y` in a [metric space](metric-spaces.md) are
+{{#concept "apart" Disambiguation="in a metric space", Agda=apart-elements-Metric-Space}}
+if there [exists](foundation.existential-quantification.md) some `d : ℚ⁺` such
+that `x` and `y` are not in a
+[`d`-neighbourhood](metric-spaces.neighbourhood-relations.md).
```
Comment (fredrik-bakke) [inline src/metric-spaces/apartness-relation-metric-spaces.lagda.md:33]: So, I've realized two things. First of all, if there exists _some_ `d : ℚ⁺` such that `x` and `y` are not in a
`d`-neighbourhood, then one ought to be able to pick `d = 0`. So existentially quantifying over a positive rational seems a bit redundant. Secondly, given this apartness relation on any pseudometric space, the pseudometric should be tight, i.e., is a metric, if and only if the apartness relation is tight :)

Comment (fredrik-bakke) [reply src/metric-spaces/apartness-relation-metric-spaces.lagda.md:33]: Oh, the "if" direction probably needs double negation elimination

File: src/elementary-number-theory/positive-rational-numbers.lagda.md [hunk 19]
```diff
@@ -432,4 +448,109 @@ module _
...
+    right-diff-law-add-ℚ⁺ (mediant-zero-ℚ⁺ x) x (le-mediant-zero-ℚ⁺ x)
+
+  split₁-ℚ⁺ : ℚ⁺
+  split₁-ℚ⁺ = pr1 split-ℚ⁺
+
+  split₂-ℚ⁺ : ℚ⁺
+  split₂-ℚ⁺ = pr1 (pr2 split-ℚ⁺)
+
+  eq-split-ℚ⁺ : split₁-ℚ⁺ +ℚ⁺ split₂-ℚ⁺ ＝ x
+  eq-split-ℚ⁺ = pr2 (pr2 split-ℚ⁺)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/positive-rational-numbers.lagda.md:529]: The definition order here should go the other way around. I.e. split-Q should be defined as the triple consisting of split1, split2 and eq-split

File: src/elementary-number-theory/positive-rational-numbers.lagda.md [hunk 20]
```diff
@@ -432,4 +448,109 @@ module _
...
+  split-ℚ⁺ =
+    mediant-zero-ℚ⁺ x ,
+    le-diff-ℚ⁺ (mediant-zero-ℚ⁺ x) x (le-mediant-zero-ℚ⁺ x) ,
+    right-diff-law-add-ℚ⁺ (mediant-zero-ℚ⁺ x) x (le-mediant-zero-ℚ⁺ x)
+
+  split₁-ℚ⁺ : ℚ⁺
+  split₁-ℚ⁺ = pr1 split-ℚ⁺
+
+  split₂-ℚ⁺ : ℚ⁺
+  split₂-ℚ⁺ = pr1 (pr2 split-ℚ⁺)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/positive-rational-numbers.lagda.md:526]: Please avoid using Unicode subscript in places like this. Better names may be `left/right-summand-split-...`

File: src/elementary-number-theory/positive-rational-numbers.lagda.md [hunk 21]
```diff
@@ -432,4 +448,109 @@ module _
...
+
+  eq-split-ℚ⁺ : split₁-ℚ⁺ +ℚ⁺ split₂-ℚ⁺ ＝ x
+  eq-split-ℚ⁺ = pr2 (pr2 split-ℚ⁺)
+```
+
+### The addition with a positive rational number is an increasing map
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/positive-rational-numbers.lagda.md:532]:
```suggestion
### Addition with a positive rational number is an increasing map
```

File: src/elementary-number-theory/positive-rational-numbers.lagda.md [hunk 22]
```diff
@@ -432,4 +448,109 @@ module _
...
+  right-diff-law-add-ℚ⁺ : x +ℚ⁺ le-diff-ℚ⁺ ＝ y
+  right-diff-law-add-ℚ⁺ =
+    ( eq-ℚ⁺
+      ( commutative-add-ℚ
+        ( rational-ℚ⁺ x)
+        ( rational-ℚ⁺ le-diff-ℚ⁺))) ∙
+    ( left-diff-law-add-ℚ⁺)
+```
+
+### The positive mediant between zero and a positive rational numbers
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/positive-rational-numbers.lagda.md:488]:
```suggestion
### The positive mediant between zero and a positive rational number
```

File: src/foundation-core/univalence.lagda.md [hunk 23]
```diff
@@ -61,6 +61,9 @@ module _
   map-eq : {A B : UU l} → A ＝ B → A → B
   map-eq = map-equiv ∘ equiv-eq
 
+  map-inv-eq : {A B : UU l} → A ＝ B → B → A
+  map-inv-eq = map-inv-equiv ∘ equiv-eq
```
Comment (fredrik-bakke) [inline src/foundation-core/univalence.lagda.md:65]: I expect the following is a cleaner definition of this map

```suggestion
  map-inv-eq : {A B : UU l} → A ＝ B → B → A
  map-inv-eq = equiv-eq ∘ inv
```

File: src/elementary-number-theory/positive-rational-numbers.lagda.md [hunk 24]
```diff
@@ -432,4 +448,109 @@ module _
...
+
+le-mediant-zero-ℚ⁺ : (x : ℚ⁺) → le-ℚ⁺ (mediant-zero-ℚ⁺ x) x
+le-mediant-zero-ℚ⁺ x =
+  ( le-right-mediant-ℚ
+    ( zero-ℚ)
+    ( rational-ℚ⁺ x)
+    ( le-zero-is-positive-ℚ (rational-ℚ⁺ x) (is-positive-rational-ℚ⁺ x)))
+```
+
+### Any positive rational number is the sum of two positve rational numbers
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/positive-rational-numbers.lagda.md:509]:
```suggestion
### Any positive rational number is the sum of two positive rational numbers
```

File: src/metric-spaces/category-of-metric-spaces-and-isometries.lagda.md [hunk 25]
```diff
@@ -0,0 +1,42 @@
+# The category of metric spaces and isometries
```
Comment (fredrik-bakke) [inline src/metric-spaces/category-of-metric-spaces-and-isometries.lagda.md:1]: If isometries are invertible, this is a groupoid, and if so a better title would be

```md
# The groupoid of metric spaces and isometries
```

File: src/metric-spaces/category-of-metric-spaces-and-isometries.lagda.md [hunk 26]
```diff
@@ -0,0 +1,42 @@
...
+  {l1 l2 : Level}
+  where
+
+  category-isometry-Metric-Space : Category (lsuc l1 ⊔ lsuc l2) (l1 ⊔ l2)
+  pr1 category-isometry-Metric-Space =
+    precategory-isometry-Metric-Space {l1} {l2}
+  pr2 category-isometry-Metric-Space A =
+    fundamental-theorem-id
+      ( is-torsorial-iso-precategory-isometry-Metric-Space A)
+      ( iso-eq-Precategory precategory-isometry-Metric-Space A)
```
Comment (fredrik-bakke) [inline src/metric-spaces/category-of-metric-spaces-and-isometries.lagda.md:41]: Please factor this out into a separate entry `is-category-isometry-...`

File: src/metric-spaces/dependent-products-metric-spaces.lagda.md [hunk 27]
```diff
@@ -0,0 +1,103 @@
...
+
+</details>
+
+## Idea
+
+Families of [metric spaces](metric-spaces.metric-spaces.md) over a type produce
+a {{#concept "product metric space" Agda=Π-Metric-Space}} on the type of
+dependent functions into the carrier types of the family. Two functions `f` and
+`g` are [`d`-close](metric-spaces.premetric-structures.md) in the product
+structure if all the evaluations `f x` and `g x` are `d`-close.
```
Comment (fredrik-bakke) [inline src/metric-spaces/dependent-products-metric-spaces.lagda.md:29]: Is the phrasing "`d`-close" standard? It seems a little odd to me here. Would a better phrasing be "within a neighborhood of diameter `d`"/"within neighborhoods of diameter `d`" or something similar?

File: src/metric-spaces/pseudometric-spaces.lagda.md [hunk 28]
```diff
@@ -0,0 +1,218 @@
...
+
+## Idea
+
+A {{#concept "pseudometric space" Agda=Pseudometric-Space}} is a
+[premetric space](metric-spaces.premetric-spaces.md) whose
+[premetric](metric-spaces.premetric-structures.md) is symmetric reflexive and
+triangular.
+
+Indistiguishability in a pseudometric space is an
+[equivalence relation](foundation.equivalence-relations.md).
```
Comment (fredrik-bakke) [inline src/metric-spaces/pseudometric-spaces.lagda.md:33]:
```suggestion
[premetric](metric-spaces.premetric-structures.md) is symmetric, reflexive, and
triangular.

Indistinguishability in a pseudometric space is an
[equivalence relation](foundation.equivalence-relations.md).
```

File: src/metric-spaces/pseudometric-spaces.lagda.md [hunk 29]
```diff
@@ -0,0 +1,183 @@
...
+      ( y)
+  indistinguishable-eq-Pseudometric-Space =
+    indistinguishable-eq-reflexive-neighbourhood
+      ( neighbourhood-Pseudometric-Space M)
+      ( is-reflexive-neighbourhood-Pseudometric-Space M)
+      ( x)
+      ( y)
+```
+
+### Any set can be equipped with a pseudometric structure
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/pseudometric-spaces.lagda.md:201]: Whoops, it looks like I was wrong again. My bad!

File: src/metric-spaces/isometry-premetric-spaces.lagda.md [hunk 30]
```diff
@@ -0,0 +1,180 @@
...
+open import metric-spaces.premetric-spaces
+```
+
+</details>
+
+## Idea
+
+A function between [premetric spaces](metric-spaces.premetric-spaces.md) is an
+{{#concept "isometry" Disambiguation="between premetric spaces" Agda=is-isometry-Premetric-Space}}
+if it transports [premetric structures](metric-spaces.premetric-structures.md).
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometry-premetric-spaces.lagda.md:33]: What does "transport" mean here? Do you mean preserves and reflects?

File: src/metric-spaces/isometry-premetric-spaces.lagda.md [hunk 31]
```diff
@@ -0,0 +1,180 @@
...
+
+  eq-htpy-map-isometry-Premetric-Space :
+    ( map-isometry-Premetric-Space A B f ~
+      map-isometry-Premetric-Space A B g) →
+    ( f ＝ g)
+  eq-htpy-map-isometry-Premetric-Space =
+    map-inv-equiv equiv-eq-htpy-map-isometry-Premetric-Space
+```
+
+### The composition of isometries between premetric spaces is a isometric
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometry-premetric-spaces.lagda.md:127]:
```suggestion
### Composition of isometries between premetric spaces
```

File: src/metric-spaces/isometry-premetric-spaces.lagda.md [hunk 32]
```diff
@@ -0,0 +1,180 @@
...
+  map-isometry-Premetric-Space = pr1 f
+
+  is-isometry-map-isometry-Premetric-Space :
+    is-isometry-Premetric-Space A B map-isometry-Premetric-Space
+  is-isometry-map-isometry-Premetric-Space = pr2 f
+```
+
+## Properties
+
+### Equality of isometries in premetric spaces is equivalent to homotopies between their carrier maps
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometry-premetric-spaces.lagda.md:99]:
```suggestion
### Equality of isometries in premetric spaces is characterized by homotopies between their carrier maps
```

File: src/metric-spaces/metric-space-of-rational-numbers.lagda.md [hunk 33]
```diff
@@ -0,0 +1,147 @@
...
+premetric-ℚ : Premetric lzero ℚ
+premetric-ℚ d x y =
+  product-Prop
+    ( le-ℚ-Prop y (x +ℚ (rational-ℚ⁺ d)))
+    ( le-ℚ-Prop x (y +ℚ (rational-ℚ⁺ d)))
+```
+
+## Properties
+
+### The standard premetric on the rational-numbers is a metric structure
```
Comment (fredrik-bakke) [inline src/metric-spaces/metric-space-of-rational-numbers.lagda.md:59]:
```suggestion
### The standard premetric on the rational numbers is a metric
```

File: src/metric-spaces/isometry-metric-spaces.lagda.md [hunk 34]
```diff
@@ -0,0 +1,212 @@
...
+    map-equiv equiv-eq-htpy-map-isometry-Metric-Space
+
+  eq-htpy-map-isometry-Metric-Space :
+    (map-isometry-Metric-Space A B f ~ map-isometry-Metric-Space A B g) →
+    (f ＝ g)
+  eq-htpy-map-isometry-Metric-Space =
+    map-inv-equiv equiv-eq-htpy-map-isometry-Metric-Space
+```
+
+### The isometric composition of isometries
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometry-metric-spaces.lagda.md:164]:
```suggestion
### Composition of isometries
```

File: src/elementary-number-theory/positive-rational-numbers.lagda.md [hunk 35]
```diff
@@ -432,4 +448,112 @@ module _
...
+        ( zero-ℚ)
+        ( rational-ℚ⁺ x)
+        ( le-zero-is-positive-ℚ (rational-ℚ⁺ x) (is-positive-rational-ℚ⁺ x))))
+
+le-mediant-zero-ℚ⁺ : (x : ℚ⁺) → le-ℚ⁺ (mediant-zero-ℚ⁺ x) x
+le-mediant-zero-ℚ⁺ x =
+  ( le-right-mediant-ℚ
+    ( zero-ℚ)
+    ( rational-ℚ⁺ x)
+    ( le-zero-is-positive-ℚ (rational-ℚ⁺ x) (is-positive-rational-ℚ⁺ x)))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/positive-rational-numbers.lagda.md:506]:
```suggestion
  le-right-mediant-ℚ
    ( zero-ℚ)
    ( rational-ℚ⁺ x)
    ( le-zero-is-positive-ℚ (rational-ℚ⁺ x) (is-positive-rational-ℚ⁺ x))
```

File: src/metric-spaces/category-of-metric-spaces-and-isometries.lagda.md (hunk 25 above)
Comment (fredrik-bakke) [reply src/metric-spaces/category-of-metric-spaces-and-isometries.lagda.md:1]: Nevermind again 😬

File: src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md [hunk 36]
```diff
@@ -0,0 +1,213 @@
...
+A
+{{#concept "Cauchy approximation" Disambiguation="in a premetric space" Agda=cauchy-approximation-Premetric-Space}}
+in a [premetric space](metric-spaces.premetric-spaces.md) is a map `f` from
+[`ℚ⁺`](elementary-number-theory.positive-rational-numbers.md) to its carrier
+type such that `f ε` and `f δ` are in a
+[(`ε + δ`)-neighbourhood](metric-spaces.premetric-structures.md) for all
+`(ε δ : ℚ⁺)`.
+
+This follows definition 4.5.5 of
+[Booij2020PhD]9(https://etheses.bham.ac.uk/id/eprint/10411/7/Booij2020PhD.pdf)
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md:40]: This should be added as a citation like below. Have a look at [our guide](https://unimath.github.io/agda-unimath/CITING-SOURCES.html) for how to properly cite sources, and let me know if you have any questions!

File: src/metric-spaces/discrete-premetric-structures.lagda.md [hunk 37]
```diff
@@ -0,0 +1,161 @@
...
+```
+
+</details>
+
+## Idea
+
+A [premetric](metric-spaces.md) on a type `A` is
+{{#concept "discrete" Disambiguation="premetric structure" Agda=is-discrete-Premetric}}
+any elements in some [`d`-neighbourhood](metric-spaces.premetric-structures.md)
+are merely equal.
```
Comment (fredrik-bakke) [inline src/metric-spaces/discrete-premetric-structures.lagda.md:42]:
```suggestion
are [merely equal](foundation.mere-equality.md).
```

File: src/metric-spaces/equality-of-premetric-spaces.lagda.md [hunk 38]
```diff
@@ -0,0 +1,218 @@
...
+        ( structure-Premetric-Space B))
+      ( is-isometry-prop-Premetric-Space A B (map-eq e))
+      ( forward)
+      ( backward)) ∘e
+    ( equiv-Eq-eq-Premetric
+      ( tr (Premetric l2) e (structure-Premetric-Space A))
+      ( structure-Premetric-Space B))
+    where
+
+    forward :
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-premetric-spaces.lagda.md:125]: This has to be renamed.

File: src/metric-spaces/equality-of-premetric-spaces.lagda.md [hunk 39]
```diff
@@ -0,0 +1,218 @@
...
+      eq-map-eq-tr-Premetric
+        ( type-Premetric-Space A)
+        ( type-Premetric-Space B)
+        ( e)
+        ( structure-Premetric-Space A)
+        ( d)
+        ( x)
+        ( y)
+
+    backward :
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-premetric-spaces.lagda.md:141]: This has to be renamed

**Review by fredrik-bakke — COMMENTED** [review]
Your coding style is shaping up very well, keep it up!

File: src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md (hunk 36 above)
Comment (fredrik-bakke) [reply src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md:40]: I.e. please add the thesis as a reference to the file `references.bib` and then cite it with a `{{#cite ...}}` invocation.

File: src/metric-spaces/saturated-metric-spaces.lagda.md [hunk 40]
```diff
@@ -0,0 +1,169 @@
...
+```
+
+</details>
+
+## Idea
+
+A [metric space](metric-spaces.metric-spaces.md) is
+{{#concept "saturated" Disambiguation="metric space" Agda=is-saturated-Metric-Space}}
+if its [premetric](metric-spaces.premetric-structures.md) is
+[closed](metric-spaces.closed-premetric-structures.md).
```
Comment (fredrik-bakke) [inline src/metric-spaces/saturated-metric-spaces.lagda.md:41]: How come a premetric space is called "closed" while a metric space is called "saturated"?

File: references.bib [hunk 41]
```diff
@@ -51,6 +51,14 @@ @online{BdJR24
   keywords    = {Computer Science - Logic in Computer Science,Mathematics - Algebraic Topology,Mathematics - Category Theory}
 }
 
+@phdthesis{Booij2020PhD,
+  title        = {Analysis in univalent type theory},
+  author       = {Booij, Auke Bart},
+  year         = {2020},
+  school       = {University of Birmingham},
+  note         = {Available at \url{https://etheses.bham.ac.uk/id/eprint/10411/7/Booij2020PhD.pdf}}
```
Comment (fredrik-bakke) [inline references.bib:59]: The reference renderer for some reason doesn't handle `\url{...}` properly :/

```suggestion
  url          = {https://etheses.bham.ac.uk/id/eprint/10411/7/Booij2020PhD.pdf}
```

**Review by fredrik-bakke — COMMENTED** [review]
I started a review the other day and then forgot to post my comments. Here they are anyways 😅

File: src/metric-spaces/saturated-metric-space-of-real-numbers.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces/saturated-metric-space-of-real-numbers.lagda.md:1]: This file should be in the `real-numbers` namespace

Comment (fredrik-bakke) [reply src/metric-spaces/saturated-metric-space-of-real-numbers.lagda.md:1]: It also seems to me like the more appropriate name for this module is `metric-space-of-real-numbers`

File: src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md [hunk 42]
```diff
@@ -0,0 +1,188 @@
...
+
+## Definitions
+
+```agda
+module _
+  {l1 l2 : Level}
+  where
+
+  precategory-isometry-Metric-Space :
+    Precategory (lsuc l1 ⊔ lsuc l2) (l1 ⊔ l2)
```
Comment (fredrik-bakke) [inline src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md:51]: A nicer and easier way to formalize this category is probably to use wide subcategories.

File: src/metric-spaces/pullback-premetric-structures.lagda.md [hunk 43]
```diff
@@ -0,0 +1,139 @@
+# The pullback of premetric structures
```
Comment (fredrik-bakke) [inline src/metric-spaces/pullback-premetric-structures.lagda.md:1]: This reads too much like "pullbacks in the category of premetrics". Rather, this is about induced premetric structures on the preimage

```suggestion
# Induced premetric structures on preimages
```

Comment (fredrik-bakke) [reply src/metric-spaces/pullback-premetric-structures.lagda.md:1]: Also change module name accordingly

File: src/metric-spaces/pullback-premetric-structures.lagda.md [hunk 44]
```diff
@@ -0,0 +1,139 @@
...
+
+### The pullback of a premetric along a map
+
+```agda
+module _
+  {l1 l1' l2 : Level} {A : UU l1} {B : UU l1'} (f : A → B)
+  (V : Premetric l2 B)
+  where
+
+  pullback-Premetric : Premetric l2 A
```
Comment (fredrik-bakke) [inline src/metric-spaces/pullback-premetric-structures.lagda.md:42]: `preimage-Premetric`

File: src/metric-spaces/saturated-metric-space-of-rational-numbers.lagda.md [hunk 45]
```diff
@@ -0,0 +1,159 @@
+# The standard saturated metric structure on the rational numbers
```
Comment (fredrik-bakke) [inline src/metric-spaces/saturated-metric-space-of-rational-numbers.lagda.md:1]:
```suggestion
# The metric space of rational numbers
```

Comment (fredrik-bakke) [reply src/metric-spaces/saturated-metric-space-of-rational-numbers.lagda.md:1]: and change module name accordingly

File: src/metric-spaces/pullback-premetric-structures.lagda.md (hunk 44 above)
Comment (fredrik-bakke) [reply src/metric-spaces/pullback-premetric-structures.lagda.md:42]: and do on for the rest of the file

File: src/metric-spaces/short-functions-metric-spaces.lagda.md [hunk 46]
```diff
@@ -0,0 +1,243 @@
...
+
+</details>
+
+## Idea
+
+A [function](metric-spaces.functions-metric-spaces.md) between
+[metric spaces](metric-spaces.metric-spaces.md) is
+{{#concept "short" Disambiguation="function between metric spaces" Agda=is-short-function-Metric-Space}}
+if it is [short](metric-spaces.short-functions-premetric-spaces.md) on their
+carrier [premetric spaces](metric-spaces.premetric-spaces.md).
```
Comment (fredrik-bakke) [inline src/metric-spaces/short-functions-metric-spaces.lagda.md:40]: Please repeat to the reader what short means in this file

File: src/metric-spaces/short-functions-metric-spaces.lagda.md [hunk 47]
```diff
@@ -0,0 +1,243 @@
...
+  is-emb-short-isometry-Metric-Space =
+    is-emb-right-factor
+      ( map-short-function-Metric-Space A B)
+      ( short-isometry-Metric-Space)
+      ( is-emb-inclusion-subtype (is-short-function-prop-Metric-Space A B))
+      ( is-emb-htpy
+        ( λ f → refl)
+        ( is-emb-inclusion-subtype (is-isometry-prop-Metric-Space A B)))
+```
+
```
Comment (fredrik-bakke) [inline src/metric-spaces/short-functions-metric-spaces.lagda.md:240]: See also the category of short functions on metric spaces :)

File: src/metric-spaces/short-functions-premetric-spaces.lagda.md [hunk 48]
```diff
@@ -0,0 +1,208 @@
...
+```
+
+</details>
+
+## Idea
+
+A function between [premetric spaces](metric-spaces.premetric-spaces.md) is
+{{#concept "short" Disambiguation="function between premetric spaces" Agda=is-short-function-Premetric-Space}}
+if it maps [`d`-neighbourhoods](metric-spaces.premetric-structures.md) to
+`d`-neighbourhoods.
```
Comment (fredrik-bakke) [inline src/metric-spaces/short-functions-premetric-spaces.lagda.md:38]: Is there a more geometrically intuitive way to understand what this means for a short map?

File: src/metric-spaces/category-of-metric-spaces-and-short-functions.lagda.md [hunk 49]
```diff
@@ -0,0 +1,57 @@
...
+open import metric-spaces.precategory-of-metric-spaces-and-short-functions
+```
+
+</details>
+
+## Idea
+
+The
+[precategory of metric spaces and short maps](metric-spaces.precategory-of-metric-spaces-and-short-functions.md)
+is a [category](category-theory.categories.md).
```
Comment (fredrik-bakke) [inline src/metric-spaces/category-of-metric-spaces-and-short-functions.lagda.md:26]:
```suggestion
is a [category](category-theory.categories.md). We call this the {{#concept "category of metric spaces and short maps" Agda=category-short-function-Metric-Space WD="category of metric spaces" WDID=Q5051850}}.
```

File: src/metric-spaces/short-functions-metric-spaces.lagda.md [hunk 50]
```diff
@@ -0,0 +1,243 @@
...
+open import metric-spaces.short-functions-premetric-spaces
+```
+
+</details>
+
+## Idea
+
+A [function](metric-spaces.functions-metric-spaces.md) between
+[metric spaces](metric-spaces.metric-spaces.md) is
+{{#concept "short" Disambiguation="function between metric spaces" Agda=is-short-function-Metric-Space}}
```
Comment (fredrik-bakke) [inline src/metric-spaces/short-functions-metric-spaces.lagda.md:38]:
```suggestion
{{#concept "short" Disambiguation="function between metric spaces" Agda=is-short-function-Metric-Space WD="metric map" WDID=Q2713824}}
```

File: src/metric-spaces/short-functions-metric-spaces.lagda.md [hunk 51]
```diff
@@ -0,0 +1,243 @@
...
+      ( short-isometry-Metric-Space)
+      ( is-emb-inclusion-subtype (is-short-function-prop-Metric-Space A B))
+      ( is-emb-htpy
+        ( λ f → refl)
+        ( is-emb-inclusion-subtype (is-isometry-prop-Metric-Space A B)))
+```
+
+## External links
+
+- [Short maps](https://ncatlab.org/nlab/show/short+map) at $n$Lab
```
Comment (fredrik-bakke) [inline src/metric-spaces/short-functions-metric-spaces.lagda.md:243]: external link metric map wikipedia

File: src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md [hunk 52]
```diff
@@ -0,0 +1,211 @@
...
+
+A
+{{#concept "Cauchy approximation" Disambiguation="in a premetric space" Agda=cauchy-approximation-Premetric-Space}}
+in a [premetric space](metric-spaces.premetric-spaces.md) is a map `f` from
+[`ℚ⁺`](elementary-number-theory.positive-rational-numbers.md) to its carrier
+type such that `f ε` and `f δ` are in a
+[(`ε + δ`)-neighbourhood](metric-spaces.premetric-structures.md) for all
+`(ε δ : ℚ⁺)`.
+
+This follows Definition 4.5.5 of {{#cite Booij2020PhD}} or Definition 11.2.10 of
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md:39]:
```suggestion
This follows Definition 4.5.5 of {{#cite Booij2020PhD}} or Definition 11.2.10 of
```
```suggestion
This follows Definition 4.5.5 of {{#cite Booij2020PhD}} and Definition 11.2.10 of
```

File: src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md [hunk 53]
```diff
@@ -0,0 +1,211 @@
...
+  is-cauchy-approximation-Premetric-Space =
+    type-Prop is-cauchy-approximation-prop-Premetric-Space
+
+  is-prop-is-cauchy-approximation-Premetric-Space :
+    is-prop is-cauchy-approximation-Premetric-Space
+  is-prop-is-cauchy-approximation-Premetric-Space =
+    is-prop-type-Prop is-cauchy-approximation-prop-Premetric-Space
+```
+
+### The type of cauchy approximations in a premmetric space
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md:72]:
```suggestion
### The type of Cauchy approximations in a premetric space
```

File: src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md [hunk 54]
```diff
@@ -0,0 +1,211 @@
...
+type such that `f ε` and `f δ` are in a
+[(`ε + δ`)-neighbourhood](metric-spaces.premetric-structures.md) for all
+`(ε δ : ℚ⁺)`.
+
+This follows Definition 4.5.5 of {{#cite Booij2020PhD}} or Definition 11.2.10 of
+{{#cite UF13}}.
+
+## Definitions
+
+### The property of being a cauchy approximation in a premetric space
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md:44]:
```suggestion
### The property of being a Cauchy approximation in a premetric space
```

File: src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md [hunk 55]
```diff
@@ -0,0 +1,211 @@
...
+    (ε δ : ℚ⁺) →
+    neighborhood-Premetric-Space
+      ( A)
+      ( ε +ℚ⁺ δ)
+      ( map-cauchy-approximation-Premetric-Space ε)
+      ( map-cauchy-approximation-Premetric-Space δ)
+  is-cauchy-map-cauchy-approximation-Premetric-Space = pr2 f
+```
+
+### Limits of a cauchy approximation in a premetric space
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md:102]:
```suggestion
### Limits of a Cauchy approximation in a premetric space
```

File: src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md [hunk 56]
```diff
@@ -0,0 +1,211 @@
...
+
+  is-prop-is-limit-cauchy-approximation-Premetric-Space :
+    is-prop is-limit-cauchy-approximation-Premetric-Space
+  is-prop-is-limit-cauchy-approximation-Premetric-Space =
+    is-prop-type-Prop is-limit-cauchy-approximation-prop-Premetric-Space
+```
+
+## Properties
+
+### Short maps between premetric spaces preserve cauchy approximations
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md:137]:
```suggestion
### Short maps between premetric spaces preserve Cauchy approximations
```

File: src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md [hunk 57]
```diff
@@ -0,0 +1,211 @@
...
+  where
+
+  preserves-is-cauchy-approximation-is-short-function-Premetric-Space :
+    is-cauchy-approximation-Premetric-Space A u →
+    is-cauchy-approximation-Premetric-Space B (f ∘ u)
+  preserves-is-cauchy-approximation-is-short-function-Premetric-Space H ε δ =
+    is-short-f (ε +ℚ⁺ δ) (u ε) (u δ) (H ε δ)
+```
+
+### Short maps between premetric spaces are functorial on cauchy approximations
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md:156]:
```suggestion
### Short maps between premetric spaces are functorial on Cauchy approximations
```

Comment (fredrik-bakke) [reply src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md:156]: There's a category of Cauchy approximations?

File: src/metric-spaces/closed-premetric-structures.lagda.md [hunk 58]
```diff
@@ -0,0 +1,370 @@
...
+  {l1 l2 : Level} {A : UU l1} (B : Premetric l2 A)
+  where
+
+  closure-Premetric : Premetric l2 A
+  closure-Premetric ε x y = Π-Prop ℚ⁺ (λ δ → B (ε +ℚ⁺ δ) x y)
+```
+
+## Properties
+
+### The closure of premetric is closed
```
Comment (fredrik-bakke) [inline src/metric-spaces/closed-premetric-structures.lagda.md:95]:
```suggestion
### The closure of a premetric is closed
```

File: src/metric-spaces/discrete-premetric-structures.lagda.md [hunk 59]
```diff
@@ -0,0 +1,161 @@
...
+      ( ℚ⁺)
+      ( λ d →
+        Π-Prop
+          ( A)
+          ( λ x →
+            Π-Prop
+              ( A)
+              ( λ y →
+                hom-Prop
+                  (B d x y)
```
Comment (fredrik-bakke) [inline src/metric-spaces/discrete-premetric-structures.lagda.md:67]:
```suggestion
                  ( B d x y)
```

File: src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md [hunk 60]
```diff
@@ -0,0 +1,132 @@
...
+
+Moreover, since the map from isometry to short maps is an
+[embedding](foundation.embeddings.md), this functor is
+[faithful](category-theory.faithful-functors-precategories.md).
+
+Finally, because short
+[isomorphisms](category-theory.isomorphisms-in-precategories.md) are isometric,
+this functor is also
+[conservative](category-theory.conservative-functors-precategories.md).
+
```
Comment (fredrik-bakke) [inline src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:50]: the functor is also an equivalence on objects

File: src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md [hunk 61]
```diff
@@ -0,0 +1,132 @@
+# The functor from the precategory of metric spaces and isometries to the precategory of metric spaces and short maps
```
Comment (fredrik-bakke) [inline src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:1]: This header is a bit too wordy

```suggestion
# The inclusion of isometries into the category of metric spaces and short maps
```

File: src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md [hunk 62]
```diff
@@ -0,0 +1,132 @@
...
+    is-equiv-f : is-equiv (map-isometry-Metric-Space A B f)
+    is-equiv-f =
+      is-equiv-is-iso-precategory-short-function-Metric-Space
+        ( A)
+        ( B)
+        ( short-isometry-Metric-Space A B f)
+        ( H)
+
+    isometric-inv : isometry-Metric-Space B A
+    isometric-inv =
```
Comment (fredrik-bakke) [inline src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:125]: these need new names

**Review by fredrik-bakke — COMMENTED** [review]
Alright, I got about half-way and am throwing in the towel for tonight. Very nice work so far!

File: src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md (hunk 57 above)
Comment (malarbol) [reply src/metric-spaces/cauchy-approximations-premetric-spaces.lagda.md:156]: Probably in metric spaces. With object as pairs of a metric space and a Cauchy approximation in it, and morphisms, maps between the metric spaces that send one Cauchy approx. to the other.  But I'm not sure where the functor is.

File: src/metric-spaces/ordering-premetric-structures.lagda.md [hunk 63]
```diff
@@ -0,0 +1,100 @@
+# The standard ordering of premetric structures on a type
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/ordering-premetric-structures.lagda.md:1]: Should I rename the module too?

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 64]
```diff
@@ -0,0 +1,243 @@
...
+### The standard premetric on the real numbers is a metric structure
+
+```agda
+is-reflexive-premetric-leq-ℝ :
+  {l : Level} → is-reflexive-Premetric (premetric-leq-ℝ l)
+is-reflexive-premetric-leq-ℝ d x = H , H
+  where
+
+  H : (r : ℚ) → is-in-lower-cut-ℝ x (r +ℚ rational-ℚ⁺ d) → is-in-lower-cut-ℝ x r
+  H r = le-lower-cut-ℝ x r (r +ℚ rational-ℚ⁺ d) (le-right-add-rational-ℚ⁺ r d)
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/real-numbers/metric-space-of-real-numbers.lagda.md:93]: I really thought this `H` only lived inside the definition of `is-reflexive-premetric-leq-ℝ`.

**Comment by malarbol** [comment]
> I started a review the other day and then forgot to post my comments. Here they are anyways 😅

funny story: I've been answering your questions for days, or asked for direction and such, but instead of commenting I had apparently "Started a review" that I never committed... so all these comments never got to be published 🙃 .

Thanks a lot for you review. I'll try to address all these as soon as possible and answer the remaining pending questions.

File: src/metric-spaces/pullback-premetric-structures.lagda.md [hunk 65]
```diff
@@ -0,0 +1,139 @@
...
+module _
+  {la lb lc l : Level} {A : UU la} {B : UU lb} {C : UU lc}
+  (g : B → C) (f : A → B) (W : Premetric l C)
+  where
+
+  eq-pullback-comp-Premetric :
+    pullback-Premetric f (pullback-Premetric g W) ＝
+    pullback-Premetric (g ∘ f) W
+  eq-pullback-comp-Premetric = refl
+```
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/pullback-premetric-structures.lagda.md:139]: > Since premetric spaces form a precategory

not really. `metric spaces` do, though, but still, I'm not sure what would the other category be. The pre-image premetric of a metric is not always a metric (I think it is if the map is an embedding) and it's still not clear to me how the functorial action would go.

There may be an interesting interpretation of pre-images of premetrics but for short-maps or isometries : 
  - a map between metric spaces A and B is short if the metric of A is finer that the pre-image metric of the metric of B;
  - it's an isometry when they are equal.

So it's more related to how short maps and isometries are stable under composition. Maybe we should say something on this somewhere.

File: src/metric-spaces/saturated-metric-space-of-rational-numbers.lagda.md (hunk 45 above)
Comment (malarbol) [reply src/metric-spaces/saturated-metric-space-of-rational-numbers.lagda.md:1]: What should I do with the other one? We can just forget it until someone wants to talk about "open" premetrics and such.

File: src/metric-spaces/saturated-metric-spaces.lagda.md (hunk 40 above)
Comment (malarbol) [reply src/metric-spaces/saturated-metric-spaces.lagda.md:41]: First, it's the premetric _structure_ (not space) that's called `closed`. With this name scheme, a premetric space with a `closed` premetric structure would be called `saturated` too, but I didn't really needed this definition.

This all came from the need to differentiate the two metric structures on `ℚ` , induced by `le-ℚ ` or `leq-ℚ `. The difference is really about open/closed intervals and, if we were to define some topology induced by the metrics, the neighbourhoods of what I called `closed` premetrics would be closed subsets in this topology (I think). So the name `closed` premetric seemed appropriate.

There's also a dual notion of `open` premetrics, (where `B d x y` implies `B d' x y` for some smaller `d'`) .

I didn't want to call spaces `closed`, though, since it could create confusion with the notion of closed subsets in topology. All metric spaces are `closed` in _this_ sense, and for a subset of a metric space, there's no relation between whether the subset is closed, or if the induced premetric is closed.  So I went with `saturated` which I thought could illustrate that neighbourhoods are "as large as they can be". 

I guess we could go with `saturated` everywhere but then we lost the analogy with open/closed intervals.

File: src/metric-spaces/saturated-metric-spaces.lagda.md [hunk 66]
```diff
@@ -0,0 +1,169 @@
...
+```
+
+### Saturation of a metric space
+
+```agda
+module _
+  {l1 l2 : Level} (M : Metric-Space l1 l2)
+  where
+
+  saturate-Metric-Space : Metric-Space l1 l2
```
Comment (malarbol) [inline src/metric-spaces/saturated-metric-spaces.lagda.md:71]: Should I talk about how this is an endofunctor of the category of short maps or isometries?

File: src/metric-spaces/short-functions-premetric-spaces.lagda.md (hunk 48 above)
Comment (malarbol) [reply src/metric-spaces/short-functions-premetric-spaces.lagda.md:38]: Maybe I should talk about the geometric intuition in the `premetric-structures` module. Classically, a metric is a distance function `dist : X -> X -> R+` with good axioms. Here, `x` and `y` are `d`-neighbours if they are at distance at most `d`, or if `d` is an upper bound of the distance. Something like `B d x y <=> dist x y ≤ d`.

 Then it only fits the intuition of a distance when it's a (pseudo)metric. (e.g. monotonicity basically says, "if `x` and `y` are at distance at most `d`, they are at distance at most `d'` for any larger `d'`"; which does feel intuitive).

With that in mind, functions between premetric are short if 
any upper bound of the distance of `x` and `y` is an upper bound of the distance of `f x` and `f y`. So, if we _had_ distances, `dist-B (f x) (f y) ≤ dist-A x y` (like the classic definition).

File: src/metric-spaces/pseudometric-spaces.lagda.md [hunk 67]
```diff
@@ -0,0 +1,232 @@
...
+
+  discrete-Pseudometric-Space : Pseudometric-Space l l
+  pr1 discrete-Pseudometric-Space = A , discrete-Premetric A
+  pr2 discrete-Pseudometric-Space =
+    is-pseudometric-discrete-Premetric
+```
+
+## See also
+
+- Metric spaces are defined in [metric-spaces](metric-spaces.metric-spaces.md).
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/pseudometric-spaces.lagda.md:232]: I can't find nlab reference on this. is wikipedia https://en.wikipedia.org/wiki/Pseudometric_space ok ?

File: src/metric-spaces/pseudometric-spaces.lagda.md [hunk 68]
```diff
@@ -0,0 +1,232 @@
...
+
+## Idea
+
+A {{#concept "pseudometric space" Agda=Pseudometric-Space}} is a
+[premetric space](metric-spaces.premetric-spaces.md) whose
+[premetric](metric-spaces.premetric-structures.md) is reflexive, symmetric, and
+triangular.
+
+Indistinguishability in a pseudometric space is an
+[equivalence relation](foundation.equivalence-relations.md).
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/pseudometric-spaces.lagda.md:34]: The only difference is the locality axiom on the premetric, which is just what's needed to make indistinguishability equivalent to equality. 

I didn't want to _define_ metric spaces as subtypes of premetric though, to not add too much complexity on the identity principles etc. Moreover, there could be other interesting  intermediate structures to study (e.g. change triangularity for monotonicity, and see what happens) so I think it's better to define all in term of subtypes of premetric spaces, and adding the ad-hoc axioms on the premetrics. But I agree it wouldn't hurt to make the relations between them more explicit. I'll see what I can do.

File: src/metric-spaces/premetric-structures.lagda.md [hunk 69]
```diff
@@ -0,0 +1,472 @@
...
+  is-fiberwise-equiv-Eq-eq-Premetric =
+    fundamental-theorem-id is-torsorial-Eq-Premetric Eq-eq-Premetric
+
+  equiv-Eq-eq-Premetric :
+    (N' : Premetric l2 A) → (N ＝ N') ≃ (Eq-Premetric N')
+  equiv-Eq-eq-Premetric N' =
+    Eq-eq-Premetric N' , is-fiberwise-equiv-Eq-eq-Premetric N'
+```
+
+### Characterisation of the transport of premetric structures along equality of types
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md:519]: oh. sorry. I'll change `neighbourhood` into `neighborhood` too.

File: src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md (hunk 62 above)
Comment (malarbol) [reply src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:125]: ok, I guess I'm abusing the `where` blocks. I'll refactor the proof to be more consistent with the guidelines.

File: src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md (hunk 60 above)
Comment (malarbol) [reply src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:50]: > the functor is also an equivalence on objects

Do you mean this have a name and I should add it as a property of this functor? if so, how is it called? (sorry, my category theory classes were a long time ago and I can't find anything in the category theory module).

File: src/metric-spaces/precategory-of-metric-spaces-and-functions.lagda.md
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/precategory-of-metric-spaces-and-functions.lagda.md:1]: > what happened to pointwise continuous functions and uniformly continuous functions?

they were a bit ill-defined. As you remarked. the _good_ concepts are short maps and isometries. pointwise or uniform continuity had this debate around `Σ` vs  `∃` in the definition of the continuity modulus which were a bit painful to work with.

I think I still have them around, I can bring them back if you want.

File: src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md (hunk 42 above)
Comment (malarbol) [reply src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md:51]: ok. got any reference module on that?

File: src/metric-spaces/premetric-structures.lagda.md [hunk 70]
```diff
@@ -0,0 +1,472 @@
...
+  (R : is-reflexive-Premetric B) (L : is-local-Premetric B)
+  where
+
+  is-tight-is-local-reflexive-Premetric : is-tight-Premetric B
+  is-tight-is-local-reflexive-Premetric x =
+    ( map-inv-is-equiv) ∘
+    ( is-fiberwise-equiv-indistinguishable-local-reflexive-Premetric B R L x)
+```
+
+### A premetric is monotonic if any `d₁`-neighbourhoods are `d₂`-neighbourhoods for `d₁ < d₂`
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md:348]: How is it different from `is-reflexive-`, `is-symmetric-`, etc.?

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md]: The difference is that we haven't refactored `is-reflexive` and `is-symmetric`

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md]: Also, I believe in those cases the definitions don't come in/after a Property section

File: src/metric-spaces/pseudometric-spaces.lagda.md (hunk 67 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/pseudometric-spaces.lagda.md:199]: Also adding a link to Wikipedia is good 👍

File: src/metric-spaces/precategory-of-metric-spaces-and-functions.lagda.md
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/precategory-of-metric-spaces-and-functions.lagda.md:1]: It still seems correct to me that being pointwise or uniformly continuous should be a property and that corresponding structure should be named something else. But I don't understand why you ended up deleting the work. Surely you want to have the concepts of pointwise and uniformly continuous functions around?

File: src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md (hunk 42 above)
Comment (fredrik-bakke) [reply src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md:51]: It seems wide subcategories aren't that much in use yet. Here's a reference module where the subcategory is full instead of wide, which gives an analogous story:
- [`ring-theory.category-of-cyclic-rings`](https://unimath.github.io/agda-unimath/ring-theory.category-of-cyclic-rings.html)

And here's a module that actually uses wide subcategories:
- [`category-theory.cores-categories`](https://unimath.github.io/agda-unimath/category-theory.cores-categories.html)

Comment (fredrik-bakke) [reply src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md:51]: On second thought, since you don't define isometries as short maps with extra properties, it's probably best to leave the formalization as is. Wide subcategories are meant to be used when a class of maps is defined as a subclass of another class of maps

File: src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md (hunk 60 above)
Comment (fredrik-bakke) [reply src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:50]: Well, there isn't a module for it, but it's a strong form of essential surjectivity of functors.

- [Essentially surjective functors](https://unimath.github.io/agda-unimath/category-theory.essentially-surjective-functors-precategories.html)
- [Split essentially surjective functors](https://unimath.github.io/agda-unimath/category-theory.split-essentially-surjective-functors-precategories.html)

File: src/metric-spaces/saturated-metric-spaces.lagda.md (hunk 66 above)
Comment (fredrik-bakke) [reply src/metric-spaces/saturated-metric-spaces.lagda.md:70]: It's up to you; you certainly don't have to.

File: src/metric-spaces/pullback-premetric-structures.lagda.md (hunk 65 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/pullback-premetric-structures.lagda.md]: > > Since premetric spaces form a precategory
> 
> not really. `metric spaces` do, though, but still, I'm not sure what would the other category be.

Oh, short maps between premetric spaces don't form a set?

> The pre-image premetric of a metric is not always a metric (I think it is if the map is an embedding) and it's still not clear to me how the functorial action would go.

Alright, disregard my initial comment.

> There may be an interesting interpretation of pre-images of premetrics but for short-maps or isometries :
> 
> * a map between metric spaces A and B is short if the metric of A is finer that the pre-image metric of the metric of B;
> * it's an isometry when they are equal.
> 
> So it's more related to how short maps and isometries are stable under composition. Maybe we should say something on this somewhere.

Indeed pre-image conditions seem highly relevant to the study.

File: src/metric-spaces/saturated-metric-spaces.lagda.md (hunk 40 above)
Comment (fredrik-bakke) [reply src/metric-spaces/saturated-metric-spaces.lagda.md:40]: The choice of terminology sounds sensible to me, but perhaps you can look for a reference to base your choice of terms on?

File: src/metric-spaces/pseudometric-spaces.lagda.md [hunk 71]
```diff
@@ -0,0 +1,199 @@
...
+open import metric-spaces.premetric-spaces
+open import metric-spaces.premetric-structures
+open import metric-spaces.pseudometric-structures
+```
+
+</details>
+
+## Idea
+
+A {{#concept "pseudometric space" Agda=Pseudometric-Space}} is a
```
Comment (fredrik-bakke) [inline src/metric-spaces/pseudometric-spaces.lagda.md:29]:
```suggestion
A {{#concept "pseudometric space" Agda=Pseudometric-Space WD="pseudometric space" WDID=Q1397059}} is a
```

File: src/metric-spaces/pseudometric-spaces.lagda.md (hunk 67 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/pseudometric-spaces.lagda.md:199]: ok. done. 
Should the `m` of `[metric space#variations]` and the `p` of `[pseudometric spaces]` be capitalized?

File: src/metric-spaces/saturated-metric-spaces.lagda.md (hunk 40 above)
Comment (malarbol) [reply src/metric-spaces/saturated-metric-spaces.lagda.md:40]: >  but perhaps you can look for a reference to base your choice of terms on?

I must confess I couldn't find any... I think the term `closed` appears too much in topology. Maybe I should call everything `saturated`. There's a related concept in topology https://ncatlab.org/nlab/show/saturated+set and, even if it's not exactly the same, there's a decent analogy since my `is-closed` property can also be interpreted as "any `ε`-neighborhood contains the intersection of all `(ε + δ)-neighborhoods` for `δ : ℚ⁺`".

It's still not the perfect analogy but at least it's more coherent to have everything called the same. Or do you have a better idea?

File: src/metric-spaces/pullback-premetric-structures.lagda.md (hunk 65 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/pullback-premetric-structures.lagda.md]: > Oh, short maps between premetric spaces don't form a set?
 
 I think unless you only consider Sets as carrier types, you can't guaranty than the functions between them is a set.

> Indeed pre-image conditions seem highly relevant to the study.

yeah, I realized this too late. I'll try to make the relations between short maps and isometries, pre-images of premetrics, and the ordering on premetrics, more explicit.

There's also a dual to short maps, maybe "expanding maps" , with `dist x y ≤ dist(f x) (f y)` which also forms a category, and with the characterization of isometries as "short and expanding functions". Should I talk about this?

File: src/metric-spaces/precategory-of-metric-spaces-and-functions.lagda.md
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/precategory-of-metric-spaces-and-functions.lagda.md:1]: > It still seems correct to me that being pointwise or uniformly continuous should be a property and that corresponding structure should be named something else.

ok. So maybe some modules with the notions of `(pointwise|uniform)-continuity-modulus-function-xxx` (with a `Σ`) and some other modules, `(pointwise|uniform)-continuity-function-xxx`, with mere existence of continuity modules?

>  But I don't understand why you ended up deleting the work. 

When I refactored my definition of metric spaces to use premetric spaces I had too many modules to update, and a lot of modules that became obsolete so I had a big cleanup. That's also when I dropped Cauchy sequences in favor of Cauchy approximations, which behave better. But I stashed everything in another branch so I can just get it back and make the appropriate changes. 

Are you sure you want to include it in this PR? It will be a lot of new modules and some new (pre)categories. We can finish polishing this one up, and I'll add the notions of continuity later?

> Surely you want to have the concepts of pointwise and uniformly continuous functions around?

well, to be honest, I'm not 100% sure. It seems that continuity entails a notion of locality which I can exactly put my finger on. For exemple, the image of a Cauchy approximation  by a uniformly continuous function is not always a Cauchy approximation (I think). However, the image is still a Cauchy approximation "near zero" (`f ε` and `f δ` are in a
(`ε + δ`)-neighborhood for sufficiently small `ε` and  `δ`, I think). So maybe it's more related to the topology induced by a metric structure. 

But, again, I still have them around, so I can get them back, either for this PR, or a next one.

File: src/metric-spaces/premetric-structures.lagda.md (hunk 70 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md]: oh. So maybe I should just move all the `is-xxx-Premetric` definitions in the `## Definitions` section (in the sense of "definitions of some properties a premetric can have") and then in the `## Properties` section, have the different relations between them?

File: src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md (hunk 60 above)
Comment (malarbol) [reply src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:55]: I added the `is-split-essentially-surjective` property. being the identity on objects, that was easy. (but the name is very long)

Comment (fredrik-bakke) [reply src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:55]: Sorry, I didn't explain myself properly. The property I was looking for is `is-equiv-obj-...` 
This is a stronger property than split essential surjectivity for precategories, but it is also conceptually related.

Comment (fredrik-bakke) [reply src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:55]: It is also a property of the functor, as opposed to split essential surjectivity which may be structure in general.

Comment (fredrik-bakke) [reply src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:55]: the full signature would be
```agda
is-equiv-obj-functor-precategory-short-isometry-Metric-Space :
  is-equiv (obj-functor-Precategory (functor-precategory-short-isometry-Metric-Space l1 l2))
```

File: src/metric-spaces/pseudometric-spaces.lagda.md (hunk 67 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/pseudometric-spaces.lagda.md:200]: Write it however it is written at the respective page. Wikipedia usually capitalizes headers while nLab rarely do

File: src/metric-spaces/premetric-structures.lagda.md (hunk 70 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md]: that's certainly an improvement over the current version

File: src/metric-spaces/saturated-metric-space-of-rational-numbers.lagda.md (hunk 45 above)
Comment (fredrik-bakke) [reply src/metric-spaces/saturated-metric-space-of-rational-numbers.lagda.md:1]: what's the other one? So far I haven't seen anything that I'd like you to remove, it's merely a question about naming.   I.e., the main idea of the file is about the metric space of rational numbers. One of its properties that is formalized in the same file is that it is saturated

Comment (fredrik-bakke) [reply src/metric-spaces/saturated-metric-space-of-rational-numbers.lagda.md:1]: In the same way one might define the booleans in the same file one proves they form a noncontractible type. That doesn't mean I'd like the file to be called "the noncontractible type of booleans"

File: src/metric-spaces/precategory-of-metric-spaces-and-functions.lagda.md
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/precategory-of-metric-spaces-and-functions.lagda.md:1]: Alright, I see many good reasons to defer the addition of different notions of continuity to a different PR. Thanks for explaining me the context for your decisions!

File: src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md (hunk 60 above)
Comment (malarbol) [reply src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:55]: > Sorry, I didn't explain myself properly. The property I was looking for is `is-equiv-obj-...` This is a stronger property than split essential surjectivity for precategories, but it is also conceptually related.

oh. I see. well, I guess the `is-split-essentially-surjective-xxx` doesn't hurt (or do you want me to remove it?).

do you want `  is-id-obj-functor-precategory-short-isometry-Metric-Space` too? so basically 

### The precategory functor from isometries to short maps is the identity on objects

```agda
module _
  (l1 l2 : Level)
  where

  is-id-obj-functor-precategory-short-isometry-Metric-Space :
    ( obj-functor-Precategory
      ( precategory-isometry-Metric-Space)
      ( precategory-short-function-Metric-Space)
      ( functor-precategory-short-isometry-Metric-Space l1 l2)) ＝
    ( id)
  is-id-obj-functor-precategory-short-isometry-Metric-Space = refl
```

### The precategory functor from isometries to short maps is an equivalence on objects

```agda
module _
  (l1 l2 : Level)
  where

  is-equiv-obj-functor-precategory-short-isometry-Metric-Space :
    is-equiv
      ( obj-functor-Precategory
        ( precategory-isometry-Metric-Space)
        ( precategory-short-function-Metric-Space)
        ( functor-precategory-short-isometry-Metric-Space l1 l2))
  is-equiv-obj-functor-precategory-short-isometry-Metric-Space =
    is-equiv-id
```

Comment (fredrik-bakke) [reply src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:55]: > oh. I see. well, I guess the `is-split-essentially-surjective-xxx` doesn't hurt (or do you want me to remove it?).

It's redundant and not as useful, so I think it should be removed.

> do you want `is-id-obj-functor-precategory-short-isometry-Metric-Space` too? 

No.

Comment (fredrik-bakke) [reply src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:55]: Note that none of the below statements fully respect the principle of isomorphism invariance

- The functor is an equivalence on objects
- The functor is split essentially surjective
- The functor is the identity on objects

However, they are all useful because they allow you to conclude that you might have an isomorphism of precategories. The bottom line is sort of that the concept of "precategories" is evil, which is why it's not that useful to formalize all of the properties mentioned and it should suffice to prove one of them. Out of the mentioned properties, I think being an equivalence on objects is "the most" benign but you may be able to argue otherwise too, and either way you are negotiating with the devil.

File: src/metric-spaces/saturated-metric-space-of-rational-numbers.lagda.md (hunk 45 above)
Comment (malarbol) [reply src/metric-spaces/saturated-metric-space-of-rational-numbers.lagda.md:1]: There's another module `metric-space-of-rational-numbers` with exactly the same definitions, using `le-ℚ` instead of `leq-ℚ`, which is essentially how they do it in https://www.cs.bham.ac.uk/~mhe/TypeTopology/MetricSpaces.Rationals.html (I believe it's easier to directly work with intervals rather than absolute value, though). 

So there are a bit different, the saturated one is the saturation of the other one, etc. But I guess only one should be standard. Or should I define both of them in the same file? (the `leq-ℚ` is much better to work with, the `le-R` version is quite more complicated)

Comment (fredrik-bakke) [reply src/metric-spaces/saturated-metric-space-of-rational-numbers.lagda.md:1]: ohhhh, my bad

File: src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md (hunk 60 above)
Comment (malarbol) [reply src/metric-spaces/functor-precategory-short-isometry-metric-spaces.lagda.md:54]: ok. thanks for the explanation.

File: src/metric-spaces/premetric-structures.lagda.md (hunk 70 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md]: Do you like te new version better?

File: src/metric-spaces/short-functions-premetric-spaces.lagda.md (hunk 48 above)
Comment (fredrik-bakke) [reply src/metric-spaces/short-functions-premetric-spaces.lagda.md]: It would be great if you appealed to an intuition like this in the idea section of all of the files
- premetric spaces/structures
- metric spaces/structures
- pseudometric spaces/structures
- short maps
- isometries

File: src/metric-spaces/apartness-relation-metric-spaces.lagda.md [hunk 72]
```diff
@@ -0,0 +1,102 @@
+# Apartness relation in metric spaces
```
Comment (malarbol) [inline src/metric-spaces/apartness-relation-metric-spaces.lagda.md:1]: Should we get rid of this module until we find the good condition for co-transitivity? Its content is now essentially in the `premetric-structures` module:
- `apart-elements-prop-Metric-Space` --> `is-separated-pt-prop-Premetric`
- `is-irreflexive-apart-elements-Metric-Space` --> `is-irreflexive-is-separated-pt-is-reflexive-Premetric`
- `is-symmetric-apart-elements-Metric-Space` --> `is-symmetric-is-separated-pt-is-symmetric-Premetric`

so we're still missing some `is-cotransitive-us-separated-pt-is-XXX-Premetric` for some good property `XXX` on the premetric, which would make the separation relation an apartness relation.

If you decide to keep it, we should at least rename it. But I'm not sure it's adding interesting at the moment.

Comment (fredrik-bakke) [reply src/metric-spaces/apartness-relation-metric-spaces.lagda.md:1]: Alright, sure, remove it.

File: src/metric-spaces/short-functions-premetric-spaces.lagda.md (hunk 48 above)
Comment (malarbol) [reply src/metric-spaces/short-functions-premetric-spaces.lagda.md]: Maybe we could make it even more than an intuition: 
reordering the variables, a `Premetric l2 A` is also a binary map `dist-Premetric : A -> A -> subtype l2 Q+`.
the basic properties have an intuitive interpretation :
- reflexivity says that `dist-Premetric x x` is the full subtype
- symmetry is symmetry of the `dist-Premetric` function
- monotonicity states than `dist-Premetric x y` is upper-stable 
- etc.

Now, let's say we define the `extended-positve-rational-numbers` has the upper-stable subsets of `Q+` (a lot like the extended natural numbers we talked about last time), with `zero-extended-Q+` being the full subtype, `infty-extended-Q+` the empty subtype, etc. Then, for a monotonic premetric, the distance function takes value in `extended-Q+` and most (all?) properties on the premetric spaces/structure translate as the classical axioms for this `dist` function. Should I go this way?

Comment (fredrik-bakke) [reply src/metric-spaces/short-functions-premetric-spaces.lagda.md]: I'm not sure I follow, but I'm certain you'll be able to make an executive decision. What I have in mind is that it would be a great benefit if these files are accessible to someone who might not be familiar with the finer points of formalization or constructive mathematics.

File: src/metric-spaces/premetric-structures.lagda.md [hunk 73]
```diff
@@ -0,0 +1,472 @@
...
+
+  neighborhood-Premetric : ℚ⁺ → A → A → UU l2
+  neighborhood-Premetric d = type-Relation-Prop (B d)
+
+  is-prop-neighborhood-Premetric :
+    (d : ℚ⁺) (x y : A) → is-prop (neighborhood-Premetric d x y)
+  is-prop-neighborhood-Premetric d = is-prop-type-Relation-Prop (B d)
+```
+
+### Two elements `x` and `y` are indistinguishable in a premetric if `x` and `y` are `d`-neighbours for any positive rational `d`
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md]: Still the header shouldn't define the term

```md
### Indistinguishable elements with respect to a premetric

Two elements `x` and `y` are {{#concept "indistinguishable" Disambiguation="with respect to a premetric" Agda=...}} in a premetric if `x` and `y` are `d`-neighbours for any positive rational `d`.

```

File: src/metric-spaces/premetric-structures.lagda.md [hunk 74]
```diff
@@ -0,0 +1,472 @@
...
+
+  is-prop-is-indistinguishable-Premetric :
+    is-prop is-indistinguishable-Premetric
+  is-prop-is-indistinguishable-Premetric =
+    is-prop-type-Prop is-indistinguishable-prop-Premetric
+```
+
+## Properties
+
+### A premetric is reflexive is any element is indistinguishable from itself
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md]: move this to the definitions section and change the header

File: src/metric-spaces/premetric-structures.lagda.md [hunk 75]
```diff
@@ -0,0 +1,472 @@
...
+  {l1 l2 : Level} {A : UU l1} (B : Premetric l2 A)
+  (H : is-reflexive-Premetric B)
+  where
+
+  indistinguishable-eq-reflexive-Premetric :
+    {x y : A} → x ＝ y → is-indistinguishable-Premetric B x y
+  indistinguishable-eq-reflexive-Premetric {x} {.x} refl d = H d x
+```
+
+### A premetric is symmetric if `d`-neighbourhoods are symmetric for all positive rational number `d`
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md]: move this to the definitions section and change the header as for indistinguishable elements

File: src/metric-spaces/premetric-structures.lagda.md [hunk 76]
```diff
@@ -0,0 +1,472 @@
...
+  (S : is-symmetric-Premetric B)
+  where
+
+  is-symmetric-is-indistinguishable-is-symmetric-Premetric :
+    is-symmetric (is-indistinguishable-Premetric B)
+  is-symmetric-is-indistinguishable-is-symmetric-Premetric x y H d =
+    S d x y (H d)
+```
+
+### A premetric is local if indistinguishability has propositional fibers
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md]: same here, move to definitions and change header + definition text

File: src/metric-spaces/premetric-structures.lagda.md [hunk 77]
```diff
@@ -0,0 +1,472 @@
...
+    Π-Prop A (is-prop-Prop ∘ Σ A ∘ is-indistinguishable-Premetric B)
+
+  is-local-Premetric : UU (l1 ⊔ l2)
+  is-local-Premetric = type-Prop is-local-prop-Premetric
+
+  is-prop-is-local-Premetric : is-prop is-local-Premetric
+  is-prop-is-local-Premetric = is-prop-type-Prop is-local-prop-Premetric
+```
+
+### In a local reflexive premetric, indistinguishability is torsorial
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md:347]: The more important conclusion is that indistinguishability characterizes equality imo

Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md:347]: and the reader may not know what torsoriality means, so my suggestion would be more recognizable

File: src/metric-spaces/premetric-structures.lagda.md (hunk 76 above)
Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md]: Also, I don't see why you discern between tightness and locality

File: src/metric-spaces/premetric-structures.lagda.md [hunk 78]
```diff
@@ -0,0 +1,472 @@
...
+
+  is-fiberwise-equiv-indistinguishable-local-reflexive-Premetric :
+    (y : A) → is-equiv (indistinguishable-eq-reflexive-Premetric B R)
+  is-fiberwise-equiv-indistinguishable-local-reflexive-Premetric =
+    fundamental-theorem-id
+      ( is-torsorial-indistinguishable-local-reflexive-Premetric)
+      ( λ y → indistinguishable-eq-reflexive-Premetric B R {x} {y})
+```
+
+### Any type equipped with a reflexive local premetric is a set
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md:368]: a good name for a reflexive local premetric is an _extensional_ premetric

File: src/metric-spaces/premetric-structures.lagda.md [hunk 79]
```diff
@@ -0,0 +1,472 @@
...
+      ( is-fiberwise-equiv-indistinguishable-local-reflexive-Premetric
+        B
+        R
+        L
+        x
+        y)
+      ( is-prop-is-indistinguishable-Premetric B x y)
+```
+
+### A premetric is tight if any two indistinguishable elements are equal
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md]: move to definitions + change header + add definition prose

File: src/metric-spaces/premetric-structures.lagda.md [hunk 80]
```diff
@@ -0,0 +1,546 @@
...
+  is-indistinguishable-Premetric =
+    type-Prop is-indistinguishable-prop-Premetric
+
+  is-prop-is-indistinguishable-Premetric :
+    is-prop is-indistinguishable-Premetric
+  is-prop-is-indistinguishable-Premetric =
+    is-prop-type-Prop is-indistinguishable-prop-Premetric
+```
+
+### Two points `x` and `y` are separated in a premetric if there exists some positive rational `d` such that `x` and `y` are not `d`-neighbours
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md:95]: change header + add definition as prose

File: src/metric-spaces/premetric-structures.lagda.md [hunk 81]
```diff
@@ -0,0 +1,546 @@
...
+  is-separated-pt-Premetric =
+    type-Prop is-separated-pt-prop-Premetric
+
+  is-prop-is-separated-pt-Premetric :
+    is-prop is-separated-pt-Premetric
+  is-prop-is-separated-pt-Premetric =
+    is-prop-type-Prop is-separated-pt-prop-Premetric
+```
+
+### A premetric is reflexive if any element is indistinguishable from itself
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md:117]: change header  + add definition prose

File: src/metric-spaces/premetric-structures.lagda.md [hunk 82]
```diff
@@ -0,0 +1,546 @@
...
+
+  is-reflexive-Premetric : UU (l1 ⊔ l2)
+  is-reflexive-Premetric = type-Prop is-reflexive-prop-Premetric
+
+  is-prop-is-reflexive-Premetric : is-prop is-reflexive-Premetric
+  is-prop-is-reflexive-Premetric =
+    is-prop-type-Prop is-reflexive-prop-Premetric
+```
+
+### A premetric is symmetric if `d`-neighborhoods are symmetric for all positive rational number `d`
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md:136]: change header + add definition as prose

File: src/metric-spaces/premetric-structures.lagda.md [hunk 83]
```diff
@@ -0,0 +1,546 @@
...
+
+  is-symmetric-Premetric : UU (l1 ⊔ l2)
+  is-symmetric-Premetric = type-Prop is-symmetric-prop-Premetric
+
+  is-prop-is-symmetric-Premetric : is-prop is-symmetric-Premetric
+  is-prop-is-symmetric-Premetric =
+    is-prop-type-Prop is-symmetric-prop-Premetric
+```
+
+### A premetric is local if indistinguishability has propositional fibers
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md:155]: change header + add definition as prose

File: src/metric-spaces/premetric-structures.lagda.md [hunk 84]
```diff
@@ -0,0 +1,546 @@
...
+                        hom-Prop (B d₁ x y) (B d₂ x y))))))))))
+
+  is-monotonic-Premetric : UU (l1 ⊔ l2)
+  is-monotonic-Premetric = type-Prop is-monotonic-prop-Premetric
+
+  is-prop-is-monotonic-Premetric : is-prop is-monotonic-Premetric
+  is-prop-is-monotonic-Premetric = is-prop-type-Prop is-monotonic-prop-Premetric
+```
+
+### A premetric is triangular if it is additively transitive
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md:218]: change header + add definition as prose

File: src/metric-spaces/premetric-structures.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md:1]: This file is still quite long. I think it would still be a benefit to refactor out some definitions + properties to new files, since many of the concepts are independent of eachother

File: src/metric-spaces/premetric-structures.lagda.md (hunk 73 above)
Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md]: oh, sorry, I was looking at an outdated version

File: src/metric-spaces/premetric-structures.lagda.md (hunk 78 above)
Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md:368]: you could create a new file about extensional premetrics in which you define reflexivity, and locality (and perhaps tightness, although I'm still not sure why you want that one around), and show properties derived from them. But then I would also be inclined to suggest that you create a separate file for reflexive premetrics

File: src/metric-spaces/premetric-structures.lagda.md (hunk 73 above)
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md]: ok. I think I get it. I hadn't realize I could add prose or define new concept away from `## Idea` section.

File: src/metric-spaces/premetric-structures.lagda.md (hunk 78 above)
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md:368]: >  I'm still not sure why you want that one around

It's a bit easier to prove than locality (e.g. to define the metric space of rationals or reals) and to work with (e.g. for subspaces / dependent products of metric spaces).

File: src/metric-spaces/short-functions-premetric-spaces.lagda.md (hunk 48 above)
Comment (malarbol) [reply src/metric-spaces/short-functions-premetric-spaces.lagda.md]: In the classical P.O.V, you start with a distance function `dist : X -> X -> R+`.
Here, we have a map 

```agda
module _
  {l1 l2 : Level} {A : UU l1} (B : Premetric l2 A)
  where

  dist-Premetric : A → A → subtype l2 ℚ⁺
  dist-Premetric x y d = B d x y
```
that behaves _a lot_ like the classical distance.

File: src/metric-spaces/premetric-structures.lagda.md
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md:1]: OK. I'll split it up, with a separate module for each property.

File: src/metric-spaces/premetric-structures.lagda.md (hunk 81 above)
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md]: it is now in a separate module

File: src/metric-spaces/premetric-structures.lagda.md (hunk 82 above)
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md]: it is now in a separate module

File: src/metric-spaces/premetric-structures.lagda.md [hunk 85]
```diff
@@ -0,0 +1,546 @@
...
+    Π-Prop A (is-prop-Prop ∘ Σ A ∘ is-indistinguishable-Premetric B)
+
+  is-local-Premetric : UU (l1 ⊔ l2)
+  is-local-Premetric = type-Prop is-local-prop-Premetric
+
+  is-prop-is-local-Premetric : is-prop is-local-Premetric
+  is-prop-is-local-Premetric = is-prop-type-Prop is-local-prop-Premetric
+```
+
+### A premetric is tight if any two indistinguishable elements are equal
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md]: it is now in a separate module

File: src/metric-spaces/premetric-structures.lagda.md (hunk 83 above)
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md]: it is now in a separate module

File: src/metric-spaces/premetric-structures.lagda.md [hunk 86]
```diff
@@ -0,0 +1,546 @@
...
+module _
+  {l1 l2 : Level} {A : UU l1} (B : Premetric l2 A)
+  where
+
+  is-tight-Premetric : UU (l1 ⊔ l2)
+  is-tight-Premetric =
+    (x y : A) → is-indistinguishable-Premetric B x y → x ＝ y
+```
+
+### A premetric is monotonic if any `d₁`-neighborhoods are `d₂`-neighborhoods for `d₁ < d₂`
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md]: it is now in a separate module

File: src/metric-spaces/premetric-structures.lagda.md
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md:1]: do you like it better now?

File: src/metric-spaces/premetric-structures.lagda.md (hunk 84 above)
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md]: it is now in a separate module

File: src/metric-spaces/reflexive-premetric-structures.lagda.md [hunk 87]
```diff
@@ -0,0 +1,99 @@
...
+  is-reflexive-Premetric = type-Prop is-reflexive-prop-Premetric
+
+  is-prop-is-reflexive-Premetric : is-prop is-reflexive-Premetric
+  is-prop-is-reflexive-Premetric =
+    is-prop-type-Prop is-reflexive-prop-Premetric
+```
+
+## Properties
+
+### Indistiguishability in a reflexive premetric is reflexive
```
Comment (fredrik-bakke) [inline src/metric-spaces/reflexive-premetric-structures.lagda.md:59]:
```suggestion
### Indistinguishability in a reflexive premetric is reflexive
```

File: src/metric-spaces/triangular-premetric-structures.lagda.md [hunk 88]
```diff
@@ -0,0 +1,112 @@
...
+open import metric-spaces.reflexive-premetric-structures
+```
+
+</details>
+
+## Idea
+
+A [premetric](metric-spaces.premetric-structures.md) is
+{{#concept "triangular" Disambiguation="premetric" agda=is-triangular-Premetric}}
+if it is additively transitive
```
Comment (fredrik-bakke) [inline src/metric-spaces/triangular-premetric-structures.lagda.md:30]: Does this also mean it satisfies the triangle inequality? If so that would be good to mention.

```suggestion
A [premetric](metric-spaces.premetric-structures.md) is
{{#concept "triangular" Disambiguation="premetric" agda=is-triangular-Premetric}}
if it is additively transitive.
```

File: src/metric-spaces/symmetric-premetric-structures.lagda.md [hunk 89]
```diff
@@ -0,0 +1,81 @@
...
+open import metric-spaces.premetric-structures
+```
+
+</details>
+
+## Idea
+
+A [premetric](metric-spaces.premetric-structures.md) is
+{{#concept "symmetric" Disambiguation="premetric" agda=is-symmetric-Premetric}}
+if `d`-neighborhoods are symmetric for all positive rational number `d`
```
Comment (fredrik-bakke) [inline src/metric-spaces/symmetric-premetric-structures.lagda.md:28]:
```suggestion
if `d`-neighborhoods are symmetric for all [positive rational numbers](elementary-number-theory.positive-rational-numbers.md) `d`.
```

File: src/metric-spaces/local-premetric-structures.lagda.md [hunk 90]
```diff
@@ -0,0 +1,142 @@
...
+  is-local-Premetric : UU (l1 ⊔ l2)
+  is-local-Premetric = type-Prop is-local-prop-Premetric
+
+  is-prop-is-local-Premetric : is-prop is-local-Premetric
+  is-prop-is-local-Premetric = is-prop-type-Prop is-local-prop-Premetric
+```
+
+### Tightness of a premetric structure
+
+A premetric is tight if any two indistinguishable elements are equal
```
Comment (fredrik-bakke) [inline src/metric-spaces/local-premetric-structures.lagda.md:58]:
```suggestion
A premetric is {{#concept "tight" Disambiguation="premetric" Agda=is-tight-Premetric}} if any two indistinguishable elements are [equal](foundation-core.identity-types.md).
```

File: src/metric-spaces/local-premetric-structures.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces/local-premetric-structures.lagda.md:1]: I agree the "local" condition and tightness should live in the same file. How about calling this file `extensionality-premetric-structures`? And define an extensional premetric to be a reflexive and local premetric

File: src/metric-spaces/premetric-structures.lagda.md
Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md:1]: Great work, this looks much neater now!

File: src/metric-spaces/reflexive-premetric-structures.lagda.md (hunk 87 above)
Comment (malarbol) [reply src/metric-spaces/reflexive-premetric-structures.lagda.md:59]: omg. I really can't spell this word right 😅

File: src/metric-spaces/premetric-structures.lagda.md (hunk 78 above)
Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md]: I'm not going to ask you to remove it, just keep in mind that it is not a homotopy coherent notion, much like injectivity for functions on types that are not sets. I suppose that's a useful lemma though, that tightness + your carrier type is a set implies local.

File: src/metric-spaces/triangular-premetric-structures.lagda.md (hunk 88 above)
Comment (malarbol) [reply src/metric-spaces/triangular-premetric-structures.lagda.md:30]: Well, kind, of. You have to be careful how you define the notion of distance, inequality, and addition, but you can get something like the following:

"In a reflexive triangular premetric, for any three points`x`, `y`, and `z`,  if the distance between `x` and `y` is finite, and the distance between `y` and `z` is finite, then so is the distance between `x` and `z` and 
`leq-??? (dist-?? x z) (add-??? (dist-?? x y) (dist-?? y z))`"

File: src/metric-spaces/premetric-structures.lagda.md (hunk 78 above)
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md]: tightness always implies locality (see `is-local-is-tight-Premetric`).

File: src/metric-spaces/local-premetric-structures.lagda.md
Comment (malarbol) [reply src/metric-spaces/local-premetric-structures.lagda.md:1]: I'm not sure about the name. This feels like this module would be about equality of premetrics (like propositional-extensionality or function-extensionality). What fo you think of `extensional-premetric-structures`?

Comment (fredrik-bakke) [reply src/metric-spaces/local-premetric-structures.lagda.md:1]: sure

File: src/metric-spaces/triangular-premetric-structures.lagda.md (hunk 88 above)
Comment (fredrik-bakke) [reply src/metric-spaces/triangular-premetric-structures.lagda.md]: Aha, but is there some subtype relation that is reminiscent of the triangle inequality?
Of course, the distance function will rarely be definable since the rationals aren't Cauchy complete

Comment (malarbol) [reply src/metric-spaces/triangular-premetric-structures.lagda.md]: > Aha, but is there some subtype relation that is reminiscent of the triangle inequality?

I think I see what you mean. Maybe I can fix this by changing the naming: if we define 

```
  is-upper-bound-dist-Premetric : A → A → ℚ⁺ → UU l2
  is-upper-bound-dist-Premetric x y d = neighborhood-Premetric d x y
```

Then we can say things like "the sum of an upper bound of the distance between `x` and `y `and an upper bound of the distance between `y` and `z` is an upper bound of the distance of `x` and `z`" which is essentially the triangular inequality.

(this also works for short maps, isometries, etc.)

> Of course, the distance function will rarely be definable since the rationals aren't Cauchy complete

Well, you can define a new type `extended-ℚ⁺`  as the subtype of upper-stable subtypes of `ℚ⁺`. It extends `ℚ⁺` with zero and +infinity and _monotonic_ premetrics are equivalent to functions 

```dist-monotonic-Premetric : A → A → extended-ℚ⁺```

Then _this_ distance function acts a lot like the classical one (with some fine prints for points at infinite distance).

Comment (fredrik-bakke) [reply src/metric-spaces/triangular-premetric-structures.lagda.md]: Ah, indeed, `extended-Q+` sounds like the upper cauchy completion of Q then. Still, this doesn't sound like it is really technology that is needed to phrase the statement I'm after.

>Then we can say things like "the sum of an upper bound of the distance between x and y and an upper bound of the distance between y and z is an upper bound of the distance of x and z" which is essentially the triangular inequality.

Sounds right!

File: src/metric-spaces/premetric-structures.lagda.md [hunk 91]
```diff
@@ -42,6 +42,10 @@ the
 
 This follows Definition 4.5.2 from {{#cite Booij2020PhD}}.
 
+In the classical interpretation, for a premetric `B` on a type `A` and some
+positive rational number `d : ℚ⁺`, `B d x y` holds for some points `(x y : A)`
+if the distance between `x` and `y` is bounded above by `d`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md:47]: The interpretation isn't really classical, though, right? This is how the reader _should_ interpret the structure

File: src/metric-spaces/premetric-structures.lagda.md [hunk 92]
```diff
@@ -57,6 +61,14 @@ module _
 
 ### Closeness relation in a premetric
 
+Two points `x` and `y` in a type `A` are in a
+{{#concept "`d`-neighborhood" Disambiguation="in a premetric" Agda=neighbourhood-Premetric}}
+in a premetric `B` for some positive rational numvber `d` if `B d x y` holds.
+
+In this case, `d` is called an
+{{#concept "upper bound" Disambiguation="on the distance in a premetric" Agda=is-upper-bound-dist-Premetric}}
+on the distance between `x` and `y` in the premetric `B`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md]:
```suggestion
Two points `x` and `y` in a type `A` are in a
{{#concept "`d`-neighborhood" Disambiguation="in a premetric" Agda=neighbourhood-Premetric}}
in a [premetric](metric-spaces.premetric-structures.md) `B` for some [positive rational number](elementary-number-theory.positive-rational-numbers.md) `d` if `B d x y` holds.
In this case, we understand `d` to be an
{{#concept "upper bound" Disambiguation="on the distance in a premetric" Agda=is-upper-bound-dist-Premetric}}
on the distance between `x` and `y` with respect to the premetric `B`.
```

Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md]: Something like this is concise and suggests precisely how the scenario should be interpreted.

File: src/metric-spaces/premetric-structures.lagda.md [hunk 93]
```diff
@@ -57,6 +61,14 @@ module _
 
 ### Closeness relation in a premetric
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md:62]: I think I'd reserve the term "closeness" for closeness structures. In that context, closeness should measure how close two things are, not how far away they are.

File: src/metric-spaces/premetric-structures.lagda.md [hunk 94]
```diff
@@ -0,0 +1,253 @@
...
+is a type family of
+[proposition-valued binary relations](foundation.binary-relations.md) indexed by
+the
+[positive rational numbers](elementary-number-theory.positive-rational-numbers.md).
+
+This follows Definition 4.5.2 from {{#cite Booij2020PhD}}.
+
+In the classical interpretation, for a premetric `B` on a type `A` and some
+positive rational number `d : ℚ⁺`, `B d x y` holds for some points `(x y : A)`
+if the distance between `x` and `y` is bounded above by `d`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md:47]:
```suggestion
A {{#concept "premetric" Disambiguation="structure on a type" Agda=Premetric}}
is a type family of
[proposition-valued binary relations](foundation.binary-relations.md) indexed by
the
[positive rational numbers](elementary-number-theory.positive-rational-numbers.md).

Given a premetric `B` on `A` and some
positive rational number `d : ℚ⁺` such that `B d x y` holds for some pair of points `x y : A`, we interpret `d` as an {{#concept "upper bound" Disambiguation="on distance in with respect to a premetric structure"}}
on the distance between `x` and `y` with respect to the premetric.
```

File: src/metric-spaces/premetric-structures.lagda.md [hunk 95]
```diff
@@ -0,0 +1,253 @@
...
+    (B : UU l1) (e : A ＝ B) (S : Premetric l2 A) →
+    Eq-Premetric
+      (tr (Premetric l2) e S)
+      (λ d x y → S d (map-inv-eq e x) (map-inv-eq e y))
+  eq-map-inv-eq-tr-Premetric .A refl S = refl-Eq-Premetric S
+```
+
+## References
+
+{{#bibliography}}
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-structures.lagda.md:248]:
```suggestion
## References

Our definition of a premetric follows Definition 4.5.2 from {{#cite Booij2020PhD}}.

{{#bibliography}}
```

File: src/metric-spaces/premetric-structures.lagda.md (hunk 93 above)
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md:61]: I'm not sure what you mean. This _does_ measure how close two elements are: if `B d x y` `dist x y ≤ d` so `x` and `y` are `d`-close.

There's actually another equivalence relation hidden there (under good assumptions on the premetric) given by
```
is-neighbor x y = ∃ ℚ⁺ (is-upper-bound-dist-Premetric x y)
 ```
that might be worth defining.

Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md:61]: As noted before, "`d`-close" is probably a bad term, and what I mean is that a closeness value of ∞ should mean that two elements are indistinguishable

Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md:61]: One of the benefits of the concept of closeness as opposed to distance is that one does not need to assign fractional values to the closeness value of two points.

Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md:61]: so 
```
## Neighborhood relation in a premetric
```
maybe?

Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md:61]: Isn't a neighborhood relation what a premetric _is_? Do you mean the neighborhood relation associated to a positive fractional value?

Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md:61]: well, kind of, but the _premetric_ takes value in `Prop l2` while the `neighborhood-Premetric` relations take value in `UU l2` .

Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md:61]: Alright, neighborhood relation associated to an positive fractional value sounds reasonable

File: src/metric-spaces/isometry-premetric-spaces.lagda.md [hunk 96]
```diff
@@ -0,0 +1,188 @@
...
+
+## Idea
+
+A function `f` between [premetric spaces](metric-spaces.premetric-spaces.md) is
+an
+{{#concept "isometry" Disambiguation="between premetric spaces" Agda=is-isometry-Premetric-Space}}
+if any of the following equivalent conditions holds:
+
+- it preserves and reflects
+  [`d`-neighborhoods](metric-spaces.premetric-structures.md);
```
Comment (malarbol) [inline src/metric-spaces/isometry-premetric-spaces.lagda.md:37]: Is there a way to redirect the url specifically to the `#concept` of `d`-neighborhood I defined in the `premetric-structures` module?

File: src/metric-spaces/premetric-structures.lagda.md (hunk 78 above)
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md]: Maybe you want something like "the discrete metric on a type is local if and only if it is a set"?

File: src/metric-spaces/saturated-metric-spaces.lagda.md (hunk 66 above)
Comment (malarbol) [reply src/metric-spaces/saturated-metric-spaces.lagda.md:70]: ok. I'll do it in another PR.

File: src/metric-spaces/saturated-metric-spaces.lagda.md (hunk 40 above)
Comment (malarbol) [reply src/metric-spaces/saturated-metric-spaces.lagda.md:40]: I still couldn't find any reference but are you ok with the names or should I change them?

Comment (fredrik-bakke) [reply src/metric-spaces/saturated-metric-spaces.lagda.md:40]: I think your suggested wording is good. What I tend to do when I have to invent new terminology for some notion is to remark on this - that it is not established terminology. If there is somewhat of an analogy to the notion of "saturated set" as linked then it could be worthwhile to mention this too.

File: src/metric-spaces/isometry-premetric-spaces.lagda.md (hunk 96 above)
Comment (fredrik-bakke) [reply src/metric-spaces/isometry-premetric-spaces.lagda.md:37]: I don't think so; this is certainly not something we've been doing so far. Following the library's principle that we should have one concept per file it has always been appropriate to just link to a file since the appropriate concept will be mentioned in the Idea-section of that file.

File: src/metric-spaces/extensional-premetric-structures.lagda.md [hunk 97]
```diff
@@ -0,0 +1,171 @@
+# Local premetric structures on types
```
Comment (fredrik-bakke) [inline src/metric-spaces/extensional-premetric-structures.lagda.md:1]:
```suggestion
# Extensional premetric structures on types
```

File: src/metric-spaces.lagda.md [hunk 98]
```diff
@@ -0,0 +1,49 @@
+# Metric spaces
+
+## Instances of metric spaces
```
Comment (fredrik-bakke) [inline src/metric-spaces.lagda.md:3]: This is not at all a requirement, but at least it may be something to think about. We've been talking a bit about having expository/introductory/summarizing text in these main module files giving a quick overview of the contents of a namespace as well introduce the main ideas. If you'd like to add a text like this to this namespace file that would be very appreciated. Feel free to take liberties when writing this. You may also take some inspiration from the `univalent-combinatorics` and `synthetic-category-theory` namespace modules, although there is no standard to follow.

Comment (malarbol) [reply src/metric-spaces.lagda.md:3]: I like the idea. Maybe I could start with the classical definition and explain how our definition is different, and how it relates to it. I'll see where my inspiration gets me.

File: src/metric-spaces/saturated-metric-spaces.lagda.md (hunk 40 above)
Comment (malarbol) [reply src/metric-spaces/saturated-metric-spaces.lagda.md:40]: ok. I added he interpretation of `closed` premetrics as the fact that subsets of upper bounds on distances are closed on the left, which I think justifies the naming. I still don't want to call these spaces _closed_ so I'll see what I can do to justify the term `saturated`. As I said, without any topology around it's hard to link it to external references but maybe I can find a way.

File: src/metric-spaces.lagda.md (hunk 98 above)
Comment (malarbol) [reply src/metric-spaces.lagda.md]: I gave it a try; you'll tell me if it's ok.

File: src/metric-spaces/functor-precategory-set-functions-isometry-metric-spaces.lagda.md [hunk 99]
```diff
@@ -0,0 +1,127 @@
...
+            { set-Metric-Space B}
+            { map-isometry-Metric-Space A B f}
+            (H)))
+        ( htpy-eq
+          ( is-retraction-hom-inv-is-iso-Precategory
+            ( Set-Precategory l1)
+            { set-Metric-Space A}
+            { set-Metric-Space B}
+            { map-isometry-Metric-Space A B f}
+            (H))))
```
Comment (malarbol) [inline src/metric-spaces/functor-precategory-set-functions-isometry-metric-spaces.lagda.md:126]: This seems quite verbose to just prove that isomorphisms in the precategory of sets are equivalences, but I couldn't find what I needed, something like `is-equiv-is-iso-precategory-Set`. Is it somewhere in the library?

File: src/metric-spaces/saturated-metric-spaces.lagda.md (hunk 40 above)
Comment (malarbol) [reply src/metric-spaces/saturated-metric-spaces.lagda.md:40]: I still can't find anything interesting to say. If you feel inspired, feel free to edit the header as you wish.

**Review by malarbol — COMMENTED** [review]
Besides the few open questions, I think it's pretty much ready. 
I know you'll be busy in the upcoming days there's no hurry. I'll leave it as it is and we can merge it whenever you have time. Or make the final edits you wish and merge it directly (and keep yourself as a co-author, obviously).

File: src/foundation/category-of-sets.lagda.md [hunk 100]
```diff
@@ -122,6 +123,34 @@ is-category-Set-Precategory l =
...
+          { B}
+          { f}
+          ( H)))
+      ( htpy-eq
+        ( is-retraction-hom-inv-is-iso-Precategory
+          ( Set-Precategory l)
+          { A}
+          { B}
+          { f}
+          ( H)))
```
Comment (fredrik-bakke) [inline src/foundation/category-of-sets.lagda.md:151]: Turns out this fact is already formalized as `is-equiv-is-iso-Set` in `isomorphisms-of-sets`, which is the name I was going to suggest to give this thing. Your formalization also has a drawback that I'd like to point out regardless. Since you're formalizing a fact about the large category of sets I think it is fitting to formalize it as such, rather than indirectly using the small precategory of sets at a given universe level. In particular, the formalization should apply to isomorphisms between sets at different universe levels. Moreover, the large category is formalized as a `record`, so you might not have to pass as many arguments explicitly as you have to here. In general, it is always preferred to use the large (pre)category when you have a hierarchy of structures stratified by universe levels.

File: src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md [hunk 101]
```diff
@@ -0,0 +1,175 @@
...
+  is-equiv-is-iso-precatory-isometry-Metric-Space :
+    is-iso-Precategory precategory-isometry-Metric-Space {A} {B} f →
+    is-equiv (map-isometry-Metric-Space A B f)
+  is-equiv-is-iso-precatory-isometry-Metric-Space =
+    rec-Σ
+      ( λ g H →
+        is-equiv-is-invertible
+          ( map-isometry-Metric-Space B A g)
+          ( htpy-eq (ap (map-isometry-Metric-Space B B) (pr1 H)))
+          ( htpy-eq (ap (map-isometry-Metric-Space A A) (pr2 H))))
```
Comment (fredrik-bakke) [inline src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md:105]: We prefer to define functions on Sigma types by pattern-matching

```suggestion
  is-equiv-is-iso-precatory-isometry-Metric-Space (g , H) =
    is-equiv-is-invertible
      ( map-isometry-Metric-Space B A g)
      ( htpy-eq (ap (map-isometry-Metric-Space B B) (pr1 H)))
      ( htpy-eq (ap (map-isometry-Metric-Space A A) (pr2 H)))
```

File: src/metric-spaces/category-of-metric-spaces-and-isometries.lagda.md [hunk 102]
```diff
@@ -0,0 +1,57 @@
+# The category of metric spaces and isometries
+
```
Comment (fredrik-bakke) [inline src/metric-spaces/category-of-metric-spaces-and-isometries.lagda.md:2]: It seems reasonable to me to merge the contents of this file and `precategory-of-metric-spaces-and-isometries` into a single file titled `category-of-metric-spaces-and-isometries`. After all, defining the precategory is just a precursor to defining the category

File: src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md [hunk 103]
```diff
@@ -0,0 +1,175 @@
...
+
+```agda
+module _
+  {l1 l2 : Level} (A B : Metric-Space l1 l2)
+  (f : isometry-Metric-Space A B)
+  where
+
+  is-equiv-is-iso-precatory-isometry-Metric-Space :
+    is-iso-Precategory precategory-isometry-Metric-Space {A} {B} f →
+    is-equiv (map-isometry-Metric-Space A B f)
```
Comment (fredrik-bakke) [inline src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md:98]: Building on my comment about the category of sets, here again there's an issue with universe polymorphism, although large categories does not resolve it directly. Namely, your lemma doesn't apply to metric spaces of differing universe levels. The best solution for now is probably to replace `is-iso-Precategory` by the type written out as follows

```suggestion
module _
  {l1 l2 l3 l4 : Level} (A : Metric-Space l1 l2) (B : Metric-Space l3 l4)
  (f : isometry-Metric-Space A B)
  where

  is-equiv-is-iso-isometry-Metric-Space :
    Σ ( isometry-Metric-Space B A)
      ( λ g →
        ( comp-isometry-Metric-Space {B} {A} {B} f g ＝
          id-isometry-Metric-Space B) ×
        ( comp-isometry-Metric-Space {A} {B} {A} g f ＝
          id-isometry-Metric-Space B) )
    is-iso-Precategory precategory-isometry-Metric-Space {A} {B} f →
    is-equiv (map-isometry-Metric-Space A B f)
```

note also the name change

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 104]
```diff
@@ -0,0 +1,260 @@
...
+
+### The standard saturated metric space of real numbers
+
+```agda
+module _
+  (l : Level)
+  where
+
+  metric-space-leq-ℝ : Metric-Space (lsuc l) l
+  pr1 metric-space-leq-ℝ = ℝ l , premetric-leq-ℝ l
```
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:184]: this should be defined in two stages. First giving `premetric-space-leq-ℝ`

File: src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md (hunk 103 above)
Comment (fredrik-bakke) [reply src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md:98]: On second thought, nevermind this comment. The suggestion is in any case a compromise and it's probably best to wait until a proper solution exists before changing this formalization to be more universe polymorphic.

File: src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md [hunk 105]
```diff
@@ -0,0 +1,175 @@
...
+
+### Isomorphisms in the precategory of metric spaces and isometries are equivalences
+
+```agda
+module _
+  {l1 l2 : Level} (A B : Metric-Space l1 l2)
+  (f : isometry-Metric-Space A B)
+  where
+
+  is-equiv-is-iso-precatory-isometry-Metric-Space :
```
Comment (fredrik-bakke) [inline src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md:96]:
```suggestion
  is-equiv-is-iso-isometry-Metric-Space :
```

File: src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md (hunk 103 above)
Comment (fredrik-bakke) [reply src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md:98]: I reopened a discussion we had last week on Discord related this, because your formalization made me realize I had thought about this problem before. Maybe it elucidates the problem to you: https://discord.com/channels/954089080197611551/966602283351703562/1287029778645520415

File: src/metric-spaces/isometry-metric-spaces.lagda.md [hunk 106]
```diff
@@ -0,0 +1,273 @@
...
+      ( premetric-Metric-Space A)
+      ( premetric-Metric-Space B)
+      ( premetric-Metric-Space C)
+      ( map-isometry-Metric-Space B C g)
+      ( map-isometry-Metric-Space A B f)
+      ( is-isometry-map-isometry-Metric-Space B C g)
+      ( is-isometry-map-isometry-Metric-Space A B f))
+```
+
+### The isometric inverse of an isometric equivalence
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometry-metric-spaces.lagda.md:193]: This header parses the same way as

> The equivalent inverse of an equivalence

In what way would you say the inverse is isometric to the original map?

File: src/metric-spaces/metric-spaces.lagda.md [hunk 107]
```diff
@@ -0,0 +1,267 @@
...
+      ( Premetric-Space l1 l2)
+      ( is-pseudometric-Premetric-Space)
+      ( is-local-Pseudometric-Space l1 l2)
+```
+
+## External links
+
+- [Metric spaces](https://en.wikipedia.org/wiki/Metric_space) at Wikipedia;
+- [MetricSpaces.Type](https://www.cs.bham.ac.uk/~mhe/TypeTopology/MetricSpaces.Type.html)
+  at TypeTopology.
```
Comment (fredrik-bakke) [inline src/metric-spaces/metric-spaces.lagda.md:267]:
```suggestion
- [MetricSpaces.Type](https://www.cs.bham.ac.uk/~mhe/TypeTopology/MetricSpaces.Type.html)
  at TypeTopology
- [Metric spaces](https://en.wikipedia.org/wiki/Metric_space) at Wikipedia
```

File: src/metric-spaces/isometry-premetric-spaces.lagda.md [hunk 108]
```diff
@@ -0,0 +1,258 @@
...
+
+  preserves-isometry-comp-function-Premetric-Space :
+    is-isometry-Premetric-Space B C g →
+    is-isometry-Premetric-Space A B f →
+    is-isometry-Premetric-Space A C (g ∘ f)
+  preserves-isometry-comp-function-Premetric-Space H K d x y =
+    (H d (f x) (f y)) ∘iff (K d x y)
+```
+
+### The inverse of an isometric equivalence between premetric spaces is isometric
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometry-premetric-spaces.lagda.md:159]:
```suggestion
### The inverse of an isometric equivalence between premetric spaces is an isometry
```

File: src/metric-spaces/metric-space-of-rational-numbers.lagda.md [hunk 109]
```diff
@@ -0,0 +1,297 @@
...
+  map-inv-equiv
+    ( equiv-leq-leq-add-positive-ℚ x (y +ℚ rational-ℚ⁺ ε))
+    ( λ δ →
+      inv-tr
+        ( leq-ℚ x)
+        ( associative-add-ℚ y (rational-ℚ⁺ ε) (rational-ℚ⁺ δ))
+        ( pr2 (H δ)))
+```
+
+### Addition of rational numbers is isometric
```
Comment (fredrik-bakke) [inline src/metric-spaces/metric-space-of-rational-numbers.lagda.md:180]:
```suggestion
### Addition of rational numbers is an isometry
```

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md [hunk 110]
```diff
@@ -0,0 +1,237 @@
...
+
+## Idea
+
+In a [premetric space](metric-spaces.premetric-spaces.md) `A`, an element `l` of
+the carrier type of `A` is a
+{{#concept "limit" Disambiguation="of a Cauchy approximation in a premetric space" Agda=is-limit-cauchy-approximation-Premetric-Space}}
+of a
+[Cauchy approximation](metric-spaces.cauchy-approximations-premetric-spaces.md)
+`f` in `A` if `f ε` is an
+[`(ε + δ)`-neighbor](metric-spaces.premetric-structures.md) of `l` for all
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:42]:
```suggestion
`(ε + δ)`-[neighbor](metric-spaces.premetric-structures.md) of `l` for all
```

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md [hunk 111]
```diff
@@ -0,0 +1,237 @@
...
+[positive rationals](elementary-number-theory.positive-rational-numbers.md)
+`(ε δ : ℚ⁺)`; this follows Definition 11.2.10 from {{#cite UF13}}.
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:44]: ``The comment

> this follows Definition 11.2.10 from {{#cite UF13}}.

fits better in the `References` section imo

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md [hunk 112]
```diff
@@ -0,0 +1,237 @@
...
+  is-limit-cauchy-approximation-Premetric-Space =
+    type-Prop is-limit-cauchy-approximation-prop-Premetric-Space
+
+  is-prop-is-limit-cauchy-approximation-Premetric-Space :
+    is-prop is-limit-cauchy-approximation-Premetric-Space
+  is-prop-is-limit-cauchy-approximation-Premetric-Space =
+    is-prop-type-Prop is-limit-cauchy-approximation-prop-Premetric-Space
+```
+
+### Local approximates of Cauchy approximations
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:84]: I can't find a definition of what an "approximate" is anywhere. Would you care to elaborate on this concept? What's the difference between an approximate, an approximation, and a bound for instance?

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md [hunk 113]
```diff
@@ -0,0 +1,237 @@
...
+
+  is-prop-is-approximate-cauchy-approximation-Premetric-Space :
+    is-prop is-approximate-cauchy-approximation-Premetric-Space
+  is-prop-is-approximate-cauchy-approximation-Premetric-Space =
+    is-prop-type-Prop is-approximate-prop-cauchy-approximation-Premetric-Space
+```
+
+## Properties
+
+### Equivalence of limits and local approximates of Cauchy approximations in premetric spaces
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:121]: Do you mean to say limits and local approximates are equivalent?


```suggestion
### Limits and local approximates of Cauchy approximations are equivalent
```

File: src/metric-spaces/metric-space-of-rational-numbers-with-open-neighborhoods.lagda.md [hunk 114]
```diff
@@ -0,0 +1,143 @@
...
+  is-reflexive-premetric-le-ℚ ,
+  is-symmetric-premetric-le-ℚ ,
+  is-triangular-premetric-le-ℚ
+
+is-metric-premetric-le-ℚ : is-metric-Premetric premetric-le-ℚ
+pr1 is-metric-premetric-le-ℚ = is-pseudometric-premetric-le-ℚ
+pr2 is-metric-premetric-le-ℚ = is-local-premetric-le-ℚ
+```
+
+### The standard metric space of rational numbers
```
Comment (fredrik-bakke) [inline src/metric-spaces/metric-space-of-rational-numbers-with-open-neighborhoods.lagda.md:137]:
```suggestion
### The standard metric space of rational numbers with open neighborhoods
```

File: src/metric-spaces/extensional-premetric-structures.lagda.md [hunk 115]
```diff
@@ -0,0 +1,187 @@
...
+  where
+
+  is-local-is-tight-Premetric : is-local-Premetric B
+  is-local-is-tight-Premetric x =
+    is-prop-all-elements-equal
+      ( λ (u , I) (v , J) →
+        eq-type-subtype
+          ( is-indistinguishable-prop-Premetric B x)
+          ( inv (T x u I) ∙ T x v J))
+```
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/extensional-premetric-structures.lagda.md:117]: Probably yes, using a proof like the following:

To show tightness is a proposition we can show it is proof irrelevant. If a premetric is tight, then it is local by the above lemma. If it is local, then every tightness proof must be equal, and so the type of tightness proofs is proof irrelevant.

File: src/metric-spaces/ordering-premetric-structures.lagda.md [hunk 116]
```diff
@@ -0,0 +1,124 @@
...
+</details>
+
+## Idea
+
+A [premetric structure](metric-spaces.premetric-structures.md) `U` on a type `A`
+is {{#concept "finer" Disambiguation="premetric on a type" Agda=leq-Premetric}}
+than another premetric `V` if `(U d)`-neighborhoods are `(V d)`-neighborhoods
+for any
+[positive rational](elementary-number-theory.positive-rational-numbers.md) `d`
+i.e. if any upper bound on the distance between two points in `U` also bounds
```
Comment (fredrik-bakke) [inline src/metric-spaces/ordering-premetric-structures.lagda.md:34]:
```suggestion
[positive rational](elementary-number-theory.positive-rational-numbers.md) `d`,
i.e., if any upper bound on the distance between two points in `U` also bounds
```

File: src/metric-spaces/precategory-of-metric-spaces-and-short-functions.lagda.md [hunk 117]
```diff
@@ -0,0 +1,296 @@
...
+            ( short-id-Metric-Space B)
+            ( f))
+          ( f)
+          ( λ x → refl))
+      ( λ {A B} f →
+        eq-htpy-map-short-function-Metric-Space A B
+          ( comp-short-function-Metric-Space A A B
+            ( f)
+            ( short-id-Metric-Space A))
+          ( f)
```
Comment (fredrik-bakke) [inline src/metric-spaces/precategory-of-metric-spaces-and-short-functions.lagda.md:83]: Associativity and unit laws should first be formalizes as separate entries, and then merely be invoked in this definition

File: src/metric-spaces/premetric-spaces.lagda.md [hunk 118]
```diff
@@ -0,0 +1,110 @@
...
+
+### The identity map on a premetric space
+
+```agda
+module _
+  {l1 l2 : Level} (A : Premetric-Space l1 l2)
+  where
+
+  id-Premetric-Space : function-carrier-type-Premetric-Space A A
+  id-Premetric-Space x = x
```
Comment (fredrik-bakke) [inline src/metric-spaces/premetric-spaces.lagda.md:109]:
```suggestion
  id-Premetric-Space = id
```

File: src/metric-spaces/pseudometric-structures.lagda.md [hunk 119]
```diff
@@ -0,0 +1,120 @@
...
+      ( is-symmetric-is-pseudometric-Premetric B M)) ,
+    ( is-triangular-closure-Premetric
+      ( B)
+      ( is-triangular-is-pseudometric-Premetric B M))
+```
+
+## See also
+
+- Metric structures are defined in
+  [metric-spaces.metric-structures](metric-spaces.metric-structures.md).
```
Comment (fredrik-bakke) [inline src/metric-spaces/pseudometric-structures.lagda.md:120]: When you're mentioninng a module name:
```suggestion
  [`metric-spaces.metric-structures`](metric-spaces.metric-structures.md).
```

File: src/metric-spaces/reflexive-premetric-structures.lagda.md [hunk 120]
```diff
@@ -0,0 +1,100 @@
...
+```
+
+</details>
+
+## Idea
+
+A [premetric structure](metric-spaces.premetric-structures.md) is
+{{#concept "reflexive" Disambiguation="premetric" Agda=is-reflexive-Premetric}}
+if any element is indistinguishable from itself i.e. if all positive rational
+numbers are upper bounds of the distance between an element and itself.
```
Comment (fredrik-bakke) [inline src/metric-spaces/reflexive-premetric-structures.lagda.md:35]:
```suggestion
A [premetric structure](metric-spaces.premetric-structures.md) is
{{#concept "reflexive" Disambiguation="premetric" Agda=is-reflexive-Premetric}}
if any element is indistinguishable from itself. I.e., a premetric structure is reflexive if all positive rational
numbers are upper bounds of the distance between an element and itself.
```

File: src/metric-spaces/short-functions-premetric-spaces.lagda.md [hunk 121]
```diff
@@ -0,0 +1,215 @@
...
+open import metric-spaces.premetric-spaces
+```
+
+</details>
+
+## Idea
+
+A function `f` between [premetric spaces](metric-spaces.premetric-spaces.md) is
+{{#concept "short" Disambiguation="function between premetric spaces" Agda=is-short-function-Premetric-Space}}
+if any of the following three equivalent propositions holds:
```
Comment (fredrik-bakke) [inline src/metric-spaces/short-functions-premetric-spaces.lagda.md:37]: link equivalent to logical equivalences and porpositions to foundation-core.propositions

File: src/metric-spaces/symmetric-premetric-structures.lagda.md [hunk 122]
```diff
@@ -0,0 +1,84 @@
...
+
+</details>
+
+## Idea
+
+A [premetric](metric-spaces.premetric-structures.md) is
+{{#concept "symmetric" Disambiguation="premetric" agda=is-symmetric-Premetric}}
+if `d`-neighborhoods are symmetric for all
+[positive rational numbers](elementary-number-theory.positive-rational-numbers.md)
+`d` i.e. if the upper bounds on the distance between two elements `x` and `y`
```
Comment (fredrik-bakke) [inline src/metric-spaces/symmetric-premetric-structures.lagda.md:30]:
```suggestion
`d`. I.e., if the upper bounds on the distance between two elements `x` and `y`
```

File: src/metric-spaces/symmetric-premetric-structures.lagda.md [hunk 123]
```diff
@@ -0,0 +1,84 @@
...
+  (S : is-symmetric-Premetric B)
+  where
+
+  is-symmetric-is-indistinguishable-is-symmetric-Premetric :
+    is-symmetric (is-indistinguishable-Premetric B)
+  is-symmetric-is-indistinguishable-is-symmetric-Premetric x y H d =
+    S d x y (H d)
+```
+
+### Being separated in a symmetric premetric is symmetric
```
Comment (fredrik-bakke) [inline src/metric-spaces/symmetric-premetric-structures.lagda.md:70]:
```suggestion
### The separatedness relation in a symmetric premetric is symmetric
```

**Review by fredrik-bakke — APPROVED** [review]

File: src/metric-spaces.lagda.md [hunk 124]
```diff
@@ -0,0 +1,95 @@
...
+
+Given a premetric
+
+```text
+  B : ℚ⁺ → A → A → Prop l
+```
+
+on a type `A`, the type of `B d x y` is called a `d`-neigborhood of `x` and `y`
+and if it is inhabited we interpret `d` as an upper bound on the distance
+between `x` and `y` in the premetric `B`.
```
Comment (fredrik-bakke) [inline src/metric-spaces.lagda.md:23]: The start of the introduction shouldn't assume that the reader has a preconceived notion of metric spaces. The reader you should have in mind is a freshman student or a curious high school student. Who stumbled upon the page by mere coincidence

**Comment by fredrik-bakke** [comment]
I did it! I got through the whole PR!

File: src/metric-spaces/complete-metric-spaces.lagda.md [hunk 125]
```diff
@@ -0,0 +1,89 @@
...
+
+### The type of complete metric spaces
+
+```agda
+module _
+  (l1 l2 : Level)
+  where
+
+  complete-Metric-Space : UU (lsuc l1 ⊔ lsuc l2)
+  complete-Metric-Space =
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/complete-metric-spaces.lagda.md:64]: Do I also have to capitalize `metric-space-Complete-Metric-Space` etc.?

File: src/metric-spaces/functor-precategory-set-functions-isometry-metric-spaces.lagda.md [hunk 126]
```diff
@@ -0,0 +1,108 @@
...
+[embedding](foundation.embeddings.md), this functor is
+[faithful](category-theory.faithful-functors-precategories.md).
+
+Finally, because the inverse of an isometric equivalnce is isometric, this
+functor is also
+[conservative](category-theory.conservative-functors-precategories.md).
+
+## Definition
+
+### The functor between the precatory of metric spaces and isometries to the precategory of sets and functions
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/functor-precategory-set-functions-isometry-metric-spaces.lagda.md:54]: I thought forgetfulness is usually used for forgetting structures on the objects. Here we are forgetting structure on the morphisms, is this terminology still ok?

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/functor-precategory-set-functions-isometry-metric-spaces.lagda.md:54]: I have never heard of such a distinction before; yes it is okay.

File: src/metric-spaces/complete-metric-spaces.lagda.md (hunk 125 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/complete-metric-spaces.lagda.md:64]: yes

File: src/metric-spaces/pseudometric-spaces.lagda.md [hunk 127]
```diff
@@ -0,0 +1,214 @@
...
+## See also
+
+- Metric spaces are defined in [metric-spaces](metric-spaces.metric-spaces.md).
+
+## External links
+
+- [Pseudometric spaces](https://en.wikipedia.org/wiki/Pseudometric_space) at
+  Wikipedia;
+- [metric space#variations](https://ncatlab.org/nlab/show/metric+space#variations)
+  at $n$Lab.
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/pseudometric-spaces.lagda.md:214]: Upper usually go before lower case though (e.g. https://en.wikipedia.org/wiki/List_of_Unicode_characters)

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/pseudometric-spaces.lagda.md:214]: This depends on your definition of "alphabetical". What I meant here is "if the letter comes later in the Latin alphabet". I'm open to discussing a choice of convention, however, if you want to.

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/pseudometric-spaces.lagda.md:214]: I'm already being inconsistent with my suggestions regarding this convention in this review though. Later on I suggest placing TypeTopology before $n$Lab, since there is a clear preference towards the former reference.

File: src/metric-spaces/closed-premetric-structures.lagda.md [hunk 128]
```diff
@@ -46,16 +46,16 @@ A [premetric](metric-spaces.premetric-structures.md) on a type `A` is
 {{#concept "closed" Disambiguation="premetric" Agda=is-closed-Premetric}} if
 `ε`-neighborhoods satisfy the following condition:
 
-for any `(x y : A)`, if `x` and `y` are in a `(ε + δ)`-neighborhood for all
-[positive rational numbers](elementary-number-theory.positive-rational-numbers.md)
-`δ`, then they are in a `ε`-neighborhood.
+> For any `x y : A`, if `x` and `y` are in a `(ε + δ)`-neighborhood for all
+> [positive rational numbers](elementary-number-theory.positive-rational-numbers.md) >
```
Comment (fredrik-bakke) [inline src/metric-spaces/closed-premetric-structures.lagda.md:50]: Sorry, an extra `>` snuck into my suggestion
```suggestion
> [positive rational numbers](elementary-number-theory.positive-rational-numbers.md)
```

File: src/metric-spaces/metric-spaces.lagda.md [hunk 129]
```diff
@@ -262,6 +262,6 @@ module _
 
 ## External links
 
-- [Metric spaces](https://en.wikipedia.org/wiki/Metric_space) at Wikipedia;
 - [MetricSpaces.Type](https://www.cs.bham.ac.uk/~mhe/TypeTopology/MetricSpaces.Type.html)
-  at TypeTopology.
+  at TypeTopology
+- [Metric spaces](https://en.wikipedia.org/wiki/Metric_space) at Wikipedia
```
Comment (fredrik-bakke) [inline src/metric-spaces/metric-spaces.lagda.md]:
```suggestion
- [`MetricSpaces.Type`](https://www.cs.bham.ac.uk/~mhe/TypeTopology/MetricSpaces.Type.html)
  at TypeTopology
- [metric space](https://ncatlab.org/nlab/show/metric+space) at $n$Lab
- [Metric spaces](https://en.wikipedia.org/wiki/Metric_space) at Wikipedia
```

Here I'm suggesting going against the convention I proposed earlier

File: src/metric-spaces/symmetric-premetric-structures.lagda.md [hunk 130]
```diff
@@ -27,7 +27,7 @@ A [premetric](metric-spaces.premetric-structures.md) is
 {{#concept "symmetric" Disambiguation="premetric" agda=is-symmetric-Premetric}}
 if `d`-neighborhoods are symmetric for all
 [positive rational numbers](elementary-number-theory.positive-rational-numbers.md)
-`d` i.e. if the upper bounds on the distance between two elements `x` and `y`
+`d`. I.e., if the upper bounds on the distance between two elements `x` and `y`
 are are the same than the upper bounds on the distance between `y` and `x`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/symmetric-premetric-structures.lagda.md]: On second reading, this sentence doesn't parse and `are` is duplicated

File: src/metric-spaces/closed-premetric-structures.lagda.md [hunk 131]
```diff
@@ -0,0 +1,381 @@
...
+</details>
+
+## Idea
+
+A [premetric](metric-spaces.premetric-structures.md) on a type `A` is
+{{#concept "closed" Disambiguation="premetric" Agda=is-closed-Premetric}} if
+`ε`-neighborhoods satisfy the following condition:
+
+> For any `x y : A`, if `x` and `y` are in a `(ε + δ)`-neighborhood for all
+> [positive rational numbers](elementary-number-theory.positive-rational-numbers.md) >
```
Comment (fredrik-bakke) [inline src/metric-spaces/closed-premetric-structures.lagda.md:50]:
```suggestion
> [positive rational numbers](elementary-number-theory.positive-rational-numbers.md) >
```
```suggestion
> [positive rational numbers](elementary-number-theory.positive-rational-numbers.md)
```

File: src/metric-spaces/symmetric-premetric-structures.lagda.md [hunk 132]
```diff
@@ -27,8 +27,9 @@ A [premetric](metric-spaces.premetric-structures.md) is
 {{#concept "symmetric" Disambiguation="premetric" agda=is-symmetric-Premetric}}
 if `d`-neighborhoods are symmetric for all
 [positive rational numbers](elementary-number-theory.positive-rational-numbers.md)
-`d`. I.e., if the upper bounds on the distance between two elements `x` and `y`
-are are the same than the upper bounds on the distance between `y` and `x`.
+`d`. I.e., the upper bounds on the distance between two elements `x` and `y` in
+a symmetric premetric are the same than the upper bounds on the distance between
+`y` and `x`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/symmetric-premetric-structures.lagda.md:32]:
```suggestion
`d`. I.e., upper bounds on the distance between two elements `x` and `y` in
a symmetric premetric are also upper bounds on the distance between
`y` and `x`.
```

Comment (fredrik-bakke) [reply src/metric-spaces/symmetric-premetric-structures.lagda.md:32]: Maybe, to emphasize the directionality:

```suggestion
`d`. I.e., an upper bound on the distance from `x` to `y` in
a symmetric premetric is also an upper bound on the distance from
`y` to `x`.
```

File: src/metric-spaces/closed-premetric-structures.lagda.md [hunk 133]
```diff
@@ -0,0 +1,381 @@
...
+
+## Idea
+
+A [premetric](metric-spaces.premetric-structures.md) on a type `A` is
+{{#concept "closed" Disambiguation="premetric" Agda=is-closed-Premetric}} if
+`ε`-neighborhoods satisfy the following condition:
+
+> For any `x y : A`, if `x` and `y` are in a `(ε + δ)`-neighborhood for all
+> [positive rational numbers](elementary-number-theory.positive-rational-numbers.md)
+> `δ`, then they are in a `ε`-neighborhood.
```
Comment (malarbol) [inline src/metric-spaces/closed-premetric-structures.lagda.md:51]: For some reason, the markdown formatter really wants to add a `>` at the end of this line: see the output of the markdown formatter:
```
 > For any `x y : A`, if `x` and `y` are in a `(ε + δ)`-neighborhood for all
-> [positive rational numbers](elementary-number-theory.positive-rational-numbers.md)
+> [positive rational numbers](elementary-number-theory.positive-rational-numbers.md) >
 > `δ`, then they are in a `ε`-neighborhood.
```
Do you have any idea why?

Comment (fredrik-bakke) [reply src/metric-spaces/closed-premetric-structures.lagda.md:51]: Oh, that's interesting. Never experienced that before

Comment (fredrik-bakke) [reply src/metric-spaces/closed-premetric-structures.lagda.md:51]: I can't immediately find an explanation. Let's just see how it turns out after merging

Comment (fredrik-bakke) [reply src/metric-spaces/closed-premetric-structures.lagda.md:51]: I'm suspecting it may be a bug, but who knows

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 134]
```diff
@@ -201,48 +239,8 @@ module _
...
-                    ( I'))) ∙
-                ( associative-add-ℚ
-                  ( r)
-                  ( rational-ℚ⁺ ε)
-                  ( r' -ℚ (r +ℚ rational-ℚ⁺ ε))))
-              ( Lxr')))
-        ( forward-implication
-          ( is-rounded-lower-cut-ℝ x (r +ℚ rational-ℚ⁺ ε)) Lxr))
+    ( is-closed-lower-neighborhood-leq-ℝ x y ε (pr1 ∘ H)) ,
+    ( is-closed-lower-neighborhood-leq-ℝ y x ε (pr2 ∘ H))
```
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:243]: Nice!

Comment (malarbol) [reply src/real-numbers/metric-space-of-real-numbers.lagda.md]: The metric structures on the rational and the real numbers are both of the form  `(P d x y) × (P d y x)` for some 
premetric `P`. And any premetric can be turned into a symmetric premetric this way, characterized as the smaller symmetric premetric greater than it. Maybe I should formalize this cleaner? e.g. this generalizes as "the symmetrization of a closed premetric is closed" and same goes for reflexivity, triangularity, etc.

Comment (fredrik-bakke) [reply src/real-numbers/metric-space-of-real-numbers.lagda.md]: Oh, then yes this sounds like a great idea. However, can we postpone this to a subsequent PR?

File: src/metric-spaces/discrete-premetric-structures.lagda.md [hunk 135]
```diff
@@ -0,0 +1,169 @@
...
+A [premetric](metric-spaces.md) on a type `A` is
+{{#concept "discrete" Disambiguation="premetric structure" Agda=is-discrete-Premetric}}
+any elements in some [`d`-neighborhood](metric-spaces.premetric-structures.md)
+are [merely equal](foundation.mere-equality.md).
+
+In a discrete premetric, two points are at bounded distance if and only iff they
+are merely equal, in which case all positive rational numbers are upper bounds
+on their distance.
+
+Every type has a unique reflexive discrete premetric.
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/discrete-premetric-structures.lagda.md]: see 7c3a01a8ffd909a9a14660539cebd42914bd94fc

File: src/metric-spaces/discrete-premetric-structures.lagda.md [hunk 136]
```diff
@@ -0,0 +1,169 @@
...
+      ( λ d →
+        Π-Prop
+          ( A)
+          ( λ x →
+            Π-Prop
+              ( A)
+              ( λ y →
+                hom-Prop
+                  ( B d x y)
+                  ( trunc-Prop (x ＝ y)))))
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/discrete-premetric-structures.lagda.md:72]: see https://github.com/UniMath/agda-unimath/commit/7c3a01a8ffd909a9a14660539cebd42914bd94fc

File: src/metric-spaces/discrete-premetric-structures.lagda.md [hunk 137]
```diff
@@ -0,0 +1,169 @@
...
+    rec-trunc-Prop
+      ( trunc-Prop (x ＝ z))
+      ( λ (i : x ＝ y) →
+        rec-trunc-Prop
+          ( trunc-Prop (x ＝ z))
+          ( λ (j : y ＝ z) → unit-trunc-Prop (i ∙ j))
+          ( H))
+```
+
+### Any type has a unique reflexive discrete premetric
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/discrete-premetric-structures.lagda.md:182]: see https://github.com/UniMath/agda-unimath/commit/7c3a01a8ffd909a9a14660539cebd42914bd94fc

File: src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md (hunk 103 above)
Comment (malarbol) [reply src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md]: Should I formalize categories of short maps / isometries as _large_ categories? (are they?)

Comment (fredrik-bakke) [reply src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md]: They are, but I don't know if it is worthwhile. See for instance what I write [here](https://github.com/UniMath/agda-unimath/blob/35e5915e3705e34ddb8f053196f2961853a08791/src/order-theory/precategory-of-posets.lagda.md#L31); your situation is completely analogous to posets. One could try to argue that it is more natural to consider metric structures using large categories as compared to your current approach, but I think it would still miss the mark.

Comment (fredrik-bakke) [reply src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md]: I'll pre-emptively resolve this conversation.

File: src/metric-spaces/discrete-premetric-structures.lagda.md [hunk 138]
```diff
@@ -0,0 +1,210 @@
...
+## Definitions
+
+### The property of being a semi-discrete premetric
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} (B : Premetric l2 A)
+  where
+
+  is-semi-discrete-prop-Premetric : Prop (l1 ⊔ l2)
```
Comment (fredrik-bakke) [inline src/metric-spaces/discrete-premetric-structures.lagda.md:59]: The word `semidiscrete` should not be hyphenated

File: src/metric-spaces/discrete-premetric-structures.lagda.md [hunk 139]
```diff
@@ -0,0 +1,210 @@
...
+open import metric-spaces.reflexive-premetric-structures
+open import metric-spaces.symmetric-premetric-structures
+open import metric-spaces.triangular-premetric-structures
+```
+
+</details>
+
+## Idea
+
+Any type comes equipped with a cannonical
```
Comment (fredrik-bakke) [inline src/metric-spaces/discrete-premetric-structures.lagda.md:43]: canonical is spelled `canonical`

File: src/metric-spaces/discrete-premetric-structures.lagda.md [hunk 140]
```diff
@@ -0,0 +1,210 @@
...
+```
+
+### Neighbors in the discrete premetric are indistinguishable
+
+```agda
+module _
+  {l : Level} (A : UU l) (d : ℚ⁺) (x y : A)
+  where
+
+  is-indistinguidhable-is-in-neighborhood-discrete-Premetric :
```
Comment (fredrik-bakke) [inline src/metric-spaces/discrete-premetric-structures.lagda.md:176]:
```suggestion
  is-indistinguishable-is-in-neighborhood-discrete-Premetric :
```

File: src/metric-spaces/complete-metric-spaces.lagda.md (hunk 125 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/complete-metric-spaces.lagda.md]: see debd94b158876880be5b23eb430a345aaa1ae787

File: src/metric-spaces/equality-of-premetric-spaces.lagda.md [hunk 141]
```diff
@@ -0,0 +1,217 @@
...
+equivalent to equality of their carrier type with a proof that this equality
+transports the [premetric structures](metric-spaces.premetric-structures.md).
+
+This last condition holds if and only if the
+[natural map induced by the equality](foundation.univalence.md) of their carrier
+types is an [isometry](metric-spaces.isometry-premetric-spaces.md).
+
+It follows that
+{{#concept "isometric equality" Disambiguation="of premetric spaces" Agda=isometric-eq-Premetric-Space}}
+characterizes equality of premetric spaces.
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/equality-of-premetric-spaces.lagda.md:47]: The problem I had was that `is-isometry` was a property of functions between metric spaces so it felt wrong to use the same word for equalities or equivalences.

Would you be ok to rename `function-carrier-type-Metric-Space` to `map-type-Metric-Space`? 

This way I could define 

```agda
  is-isometry-map-type-Metric-Space :
    (f : type-Metric-Space A → type-Metric-Space B) → UU _
  is-isometry-map-type-Metric-Space f =
    is-isometry-Premetric-Space
      ( premetric-Metric-Space A)
      ( premetric-Metric-Space B)
      ( f)

  is-isometry-equiv-type-Metric-Space :
    (e : type-Metric-Space A ≃ type-Metric-Space B) → UU _
  is-isometry-equiv-type-Metric-Space  =
    is-isometry-map-type-Metric-Space ∘ map-equiv

  is-isometry-eq-type-Metric-Space :
    (e : type-Metric-Space A ＝ type-Metric-Space B) → UU _
  is-isometry-eq-type-Metric-Space =
    is-isometry-map-type-Metric-Space ∘ map-eq
```

and try to follow up with a coherent notation for the rest.

File: src/metric-spaces/short-functions-premetric-spaces.lagda.md (hunk 121 above)
Comment (malarbol) [reply src/metric-spaces/short-functions-premetric-spaces.lagda.md]: like this c2a5ad45d4bf129c5ebb76af2bcdd7832c4cdebf ? I remember you told me you preferred not to put two links next to each others.

File: src/metric-spaces/premetric-structures.lagda.md (hunk 78 above)
Comment (malarbol) [reply src/metric-spaces/premetric-structures.lagda.md]: see b2669541555ecaab855ddadf95c71d9d60c41ee5

File: src/metric-spaces/discrete-premetric-structures.lagda.md [hunk 142]
```diff
@@ -0,0 +1,232 @@
...
+
+  is-discrete-Premetric : UU (l1 ⊔ l2)
+  is-discrete-Premetric = type-Prop is-discrete-prop-Premetric
+
+  is-prop-is-discrete-Premetric : is-prop is-discrete-Premetric
+  is-prop-is-discrete-Premetric =
+    is-prop-type-Prop is-discrete-prop-Premetric
+```
+
+### The cannonical discrete premetric on a type
```
Comment (fredrik-bakke) [inline src/metric-spaces/discrete-premetric-structures.lagda.md:104]:
```suggestion
### The canonical discrete premetric on a type
```

File: src/metric-spaces/discrete-premetric-structures.lagda.md [hunk 143]
```diff
@@ -0,0 +1,232 @@
...
+  is-discrete-discrete-Premetric :
+    is-discrete-Premetric discrete-Premetric
+  is-discrete-discrete-Premetric =
+    (λ x d → unit-trunc-Prop refl) ,
+    (λ d x y → id)
+```
+
+## Properties
+
+### The standard discrete premetric on a type is reflexive
```
Comment (fredrik-bakke) [inline src/metric-spaces/discrete-premetric-structures.lagda.md:123]: After the latest review, the terminology usage in this file is a bit inconsistent. Please review the headers and replace "standard" with "canonical" or conversely. Moreover, here it is stated as a property that the canonical discrete premetric is reflexive, but this should follow by definition, so it seems the formalization should be part of the definitions section

Comment (malarbol) [reply src/metric-spaces/discrete-premetric-structures.lagda.md]: I think the problem is that you expected `discrete-Premetric` to have type 
```discrete-Premetric : Discrete-Premetric l1 A```
 while it was merely a `Premetric`, and I hadn't even defined `Discrete-Premetric`. 

I tried to fix this in c6105b65c402aee40dce24fc5c5597bb186f0446, tell me if it's better, and I'll also change the header accordingly. 

All the properties I stated for "the canonical discrete premetric" are also true for any discrete premetric but to make it clean, it would be better to modify the definition of `Eq-Premetric` in `metric-spaces.premetric-structures.md` to work between premetrics in different levels, and prove that the premetrics properties (reflexivity, triangularity, etc.) are invariant under `Eq-Premetric`.  I suggest to leave these for another PR, though, and try to finish this one first.
If you want, you can create some issues, linking this PR (e.g., for discrete premetrics, symmetrization of premetrics, products of complete metric spaces, open/closed premetrics, etc.) that I'll try to address separately in smaller PRs.

File: src/metric-spaces/category-of-metric-spaces-and-isometries.lagda.md (hunk 102 above)
Comment (malarbol) [reply src/metric-spaces/category-of-metric-spaces-and-isometries.lagda.md:2]: > After all, defining the precategory is just a precursor to defining the category

I'm not sure about this one. Currently, I still need a few lemmas to prove `is-category-precategory-isometry-Metric-Space` so the module would end up structured like this :

- definition of `precategory-isometry-Metric-Space`
- properties of isomorphisms in this pre category
- ..
- ..
- `is-category-precategory-isometry-Metric-Space`
- definition of `category-isometry-Metric-Space`

which, if I understood correctly, is a bit of an anti-pattern in the library. (Definition/Properties/Definition). Does it really hurt to have them in separated modules? putting `is-torsorial-iso-isometry-Metric-Space` in the category module as you suggested.

File: src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md [hunk 144]
```diff
@@ -0,0 +1,175 @@
...
+  where
+
+  is-torsorial-iso-precategory-isometry-Metric-Space :
+    is-torsorial (iso-Precategory precategory-isometry-Metric-Space A)
+  is-torsorial-iso-precategory-isometry-Metric-Space =
+    is-contr-equiv
+      ( Σ (Metric-Space l1 l2) (isometric-is-equiv-Metric-Space A))
+      ( equiv-tot (equiv-iso-isometric-is-equiv-Metric-Space A))
+      ( is-torsorial-isometric-is-equiv-Metric-Space A)
+```
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/precategory-of-metric-spaces-and-isometries.lagda.md]: See 24d4350f07612235bac477a1efd9b3001082a7dc
I'm closing this and leaving the other conversation open, to discuss if we merge the (pre)categories modules, or not.

File: src/metric-spaces/discrete-premetric-structures.lagda.md (hunk 143 above)
Comment (fredrik-bakke) [reply src/metric-spaces/discrete-premetric-structures.lagda.md]: I think it is good now 👍

Regarding `Eq-Premetric`, note that equality only makes sense for elements of the same type, so should be no such thing as "equality of premetrics between universe levels"

Comment (malarbol) [reply src/metric-spaces/discrete-premetric-structures.lagda.md]: I know, that's why it's written this way, because I only had `eq-Eq-Premetric` in mind. But I know believe the definition of `Eq-Premetric` should be polymorphic on the levels, and make `eq-Eq-Premetric` a special case when the levels are the same. Would this be wrong?

Comment (fredrik-bakke) [reply src/metric-spaces/discrete-premetric-structures.lagda.md]: Oh, I see. No, having a universe polymorphic definition of your observational equality type on premetrics is not wrong. I just misinterpreted the name, and expected it to involve equality of the underlying types.

File: src/metric-spaces/category-of-metric-spaces-and-isometries.lagda.md (hunk 102 above)
Comment (fredrik-bakke) [reply src/metric-spaces/category-of-metric-spaces-and-isometries.lagda.md:2]: your objection is reasonable and I think the current state of your code is good. Just moving the torsoriality lemmas did a lot for me

File: src/metric-spaces/saturated-metric-spaces.lagda.md (hunk 40 above)
Comment (fredrik-bakke) [reply src/metric-spaces/saturated-metric-spaces.lagda.md:40]: Hmm, maybe one (maybe slightly inaccurate, but still I think usefully intuitive), is to say that the neighborhoods of a closed premetric contain their boundary?

Comment (fredrik-bakke) [reply src/metric-spaces/saturated-metric-spaces.lagda.md:40]: I say let's postpone this for a later PR though. I think it is too much to ask that we resolve every discussion that is opened before merging

File: src/metric-spaces/premetric-structures.lagda.md (hunk 78 above)
Comment (fredrik-bakke) [reply src/metric-spaces/premetric-structures.lagda.md]: very nice!

File: src/metric-spaces/short-functions-premetric-spaces.lagda.md (hunk 121 above)
Comment (fredrik-bakke) [reply src/metric-spaces/short-functions-premetric-spaces.lagda.md]: Why do you have to use my own words against me like this? 😩

More seriously though, the distinction I'd make is that here the words clearly refer to different concepts, while at other times it may not be so clear. E.g., if one says "discrete set".

File: src/metric-spaces/equality-of-premetric-spaces.lagda.md (hunk 141 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/equality-of-premetric-spaces.lagda.md:47]: sure, `map-type-Metric-Space` sounds fine

File: src/metric-spaces/extensional-premetric-structures.lagda.md (hunk 115 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/extensional-premetric-structures.lagda.md:117]: I'm preemptively resolving this conversation so we can get this PR rolling. Sorry for being so up in your business with my review

**Comment by fredrik-bakke** [comment]
You're so close to done!

File: src/metric-spaces/isometric-equivalences-premetric-spaces.lagda.md [hunk 145]
```diff
@@ -0,0 +1,128 @@
...
+
+### The type of isometric invertible maps between premetric spaces
+
+```agda
+module _
+  {l1 l2 l1' l2' : Level}
+  (A : Premetric-Space l1 l2) (B : Premetric-Space l1' l2')
+  where
+
+  is-isometric-is-equiv-prop-Premetric-Space :
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/isometric-equivalences-premetric-spaces.lagda.md]: See 0873ece2e2d870e113f53242be00bcb8b67df8e0 and f606cfd9f030c6f7c248b6c80cc9d07b738a4e42
I still have to rereview the concerned modules to make sure everything is ok.

File: src/metric-spaces/equality-of-metric-spaces.lagda.md [hunk 146]
```diff
@@ -0,0 +1,210 @@
...
+
+</details>
+
+## Idea
+
+Equality of [metric-spaces](metric-spaces.metric-spaces.md) is equivalent to
+[equality](metric-spaces.equality-of-premetric-spaces.md) of their carrier
+[premetric spaces](metric-spaces.premetric-spaces.md); therefore,
+{{#concept "isometric equality" Disambiguation="between metric spaces", Agda=isometric-eq-Metric-Space}}
+between metric spaces characterizes their equality, as well as
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/equality-of-metric-spaces.lagda.md]: Why is that? I'm using "isometric" as a direct adjective for "is an isometry", and although it's not exactly the same usage as in "two spaces are isometric" it still feels like the adequate word. Are you ok with the term "isometrically equal" for two metric spaces whose carrier type are equal and `map-eq` is an isometry?  
then how would you call a witness equality for that? I find "equality that is an isometry" a bit too verbose, and really think "isometric equality" carries the very same meaning. 

The same goes for "isometric equivalence", an equivalence between the carrier types of metric spaces such that `map-equiv` is an isometry. And symmetrically, "equivalent isometries" are now isometries such that the carrier map is an equivalence.

File: src/metric-spaces/equality-of-premetric-spaces.lagda.md (hunk 141 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/equality-of-premetric-spaces.lagda.md]: see https://github.com/UniMath/agda-unimath/pull/1162/files/764a2118fd597e9be39b52d714b717ba9e7c636a#r1772462963

I really don't see why you would prefer "equalities that are isometries" over "isometric equalities".
Why can't "being an isometry" have an adjective?

File: src/metric-spaces.lagda.md (hunk 124 above)
Comment (malarbol) [reply src/metric-spaces.lagda.md]: I'm not sure to follow you. A "positive definite, symmetric, reflexive, and triangular binary map into the real numbers" is an actual definition of what a classical metric structure is, without prior notion of metric spaces. 

So I'm assuming the reader knows about "real numbers", "binary maps", and hope they can infer what could mean for a "binary map into the real numbers" to be "positive" (easy), "definite" (hard?), "symmetric" (easy), "reflexive" (easy?), and  "triangular" (hard?). Maybe adding a link to https://en.wikipedia.org/wiki/Metric_space#Definition as I did in 87a9b507413c20aab5d43b18aca90f2c2217158f can help clearing up doubts.

**Comment by fredrik-bakke** [comment]
Hey! Im on my phone and can't find the right comment, but regarding "being isometric" vs. "being an isometry". I wonder if the issue is that when one says that "something is isometric", rather than, say, an "isometric equivalence". The word is understood as "isometric in relation to some other object". So I will concede you can say "my equivalence is an isometric equivalence", but I am very unsure if you should say "my equivalence is isometric".

**Comment by fredrik-bakke** [comment]
Maybe a better conjugation is to say "my equivalence is isometrical"?

**Comment by fredrik-bakke** [comment]
We should definitely find an English language reference for this

File: src/metric-spaces/extensional-premetric-structures.lagda.md [hunk 147]
```diff
@@ -0,0 +1,187 @@
...
+A [premetric](metric-spaces.premetric-structures.md) is
+{{#concept "local" Disambiguation="premetric" agda=is-local-Premetric}} if
+indistinguishability has propositional fibers.
+
+A reflexive local premetric is called
+{{#concept "extensional" Disambiguation="premetric on a type" Agda=is-extensional-Premetric}}.
+
+Indistiguishability in an extensional premetric structure characterizes equality
+in the carrier type. In particular, any type equipped with an extensional
+premetric is a [set](foundation.sets.md).
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/extensional-premetric-structures.lagda.md]: I prefer to give the name of the concept before the definition, but it's a matter of taste.
I tries a new phrasing in fd186e8f6cbce0cc4b719d3af161b76c3d57277c 
As noted in some other PRs, writing prose is not my strong suit so feel free to rewrite any of them as you like.

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md (hunk 112 above)
Comment (malarbol) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:84]: I knew this naming was a bit clumsy.
As noted below, `limits` and what I call `local approximates` are actually equivalent. The difference is that `limits` are quantified like `∀ (ε δ : ℚ⁺) ... P (ε +ℚ⁺ δ) ε` and `approximates` are quantified like `∀ (ε δ : ℚ⁺) (δ < ε) .. P ε δ`.

Depending on the context, one can be slightly easier to work with than the other, e.g. `is-indistinguishable-is-approximate-cauchy-approximation-triangular-symmetric-Premetric-Space` (but maybe my proof is more complicated that it should be?).

The idea that the second approach quantifies over "small δ's" and that, for these small δ's, `f δ` is near the limit value, made me chose this name. But I'm open to suggestions.

File: src/metric-spaces/convergent-cauchy-approximations-metric-spaces.lagda.md [hunk 148]
```diff
@@ -0,0 +1,146 @@
...
+  where
+
+  is-convergent-cauchy-approximation-Metric-Space : UU (l1 ⊔ l2)
+  is-convergent-cauchy-approximation-Metric-Space =
+    Σ ( type-Metric-Space A)
+      ( is-limit-cauchy-approximation-Premetric-Space
+        ( premetric-Metric-Space A)
+        ( f))
+
+  is-prop-is-convergent-cauchy-approximation-Metric-Space :
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/convergent-cauchy-approximations-metric-spaces.lagda.md]: see 73a707c21c90c8448e9b2d9a1a5f03a2b7c8737b

File: src/metric-spaces/pseudometric-spaces.lagda.md (hunk 127 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/pseudometric-spaces.lagda.md]: see 05a3ecbb451a2e33294b21ff93dfdde77dc268bb

File: src/metric-spaces/metric-spaces.lagda.md (hunk 107 above)
Comment (malarbol) [reply src/metric-spaces/metric-spaces.lagda.md]: see 05a3ecbb451a2e33294b21ff93dfdde77dc268bb

File: src/metric-spaces/metric-spaces.lagda.md (hunk 129 above)
Comment (malarbol) [reply src/metric-spaces/metric-spaces.lagda.md]: see 05a3ecbb451a2e33294b21ff93dfdde77dc268bb

File: src/metric-spaces/saturated-metric-spaces.lagda.md (hunk 40 above)
Comment (malarbol) [reply src/metric-spaces/saturated-metric-spaces.lagda.md:40]: ok. I'll close this discussion it but keep it in mind.

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md (hunk 112 above)
Comment (fredrik-bakke) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:84]: I see. From what I can gather, `approximate` is either an adjective or a verb, but here you seem to be using it as a noun, which would be wrong. Why do you not want to use "approximation"?

Comment (fredrik-bakke) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:84]: I see that approximation would be used in two different meanings here then

Comment (malarbol) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:84]: `is-local-approximation-cauchy-approximation` seems a bit redundant. what about "estimate" ?

Comment (fredrik-bakke) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:84]: What about something like "is locally a limiting point" or "is locally a convergence point"?

File: src/metric-spaces/extensional-premetric-structures.lagda.md (hunk 147 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/extensional-premetric-structures.lagda.md]: Neither is it mine. I think you're doing a fine job!

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md (hunk 112 above)
Comment (fredrik-bakke) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:84]: "estimate" is good to me

**Comment by fredrik-bakke** [comment]
So, I didn't find a good reference on the distinction between "-ic" and "-ical" endings online in the context of math, so I asked an LLM for their input, and here is what it had to say. I'll let you decide based on what you judge from it.

> The distinction between the *-ic* and *-ical* suffixes can indeed be subtle, but it often relates to the difference between a property in the abstract (*-ic*) versus the broader context or structure in which that property is involved (*-ical*). Let's delve into the specific examples you're interested in, focusing on *homotopy* and *isometry*.
> 
> ### Homotopy: "Homotopic" vs. "Homotopical"
> 
> - **Homotopic**: This term is generally used to describe a relationship between two objects, specifically in the context of homotopy. For instance, two maps \( f \) and \( g \) are *homotopic* if there exists a homotopy between them. The word refers to the specific condition of "being homotopic" to something else. It's more of a relational term.
>   
> - **Homotopical**: On the other hand, *homotopical* is used when something pertains to homotopy theory or involves homotopy concepts in a broader sense. When we describe something as *homotopical*, like a *homotopical functor*, we're referring to it as related to the general framework of homotopy, without needing to specify a homotopy relation between two objects. It indicates that the functor behaves in a way compatible with homotopy theory.
> 
> ### Isometry: "Isometric" vs. "Isometrical"
> 
> - **Isometric**: Similar to *homotopic*, *isometric* is the more concrete term. It refers to objects (such as spaces, maps, or transformations) that preserve distances. For example, two spaces are *isometric* if there exists an isometry (a distance-preserving map) between them. It’s a specific condition of having or preserving a property related to isometries.
> 
> - **Isometrical**: This term is not used as commonly, but if it were, it would follow the same pattern as *homotopical*. It would refer to something pertaining to or structured around the concept of isometry in a broader sense. For instance, an *isometrical transformation* could refer to a class of transformations that preserve distance, but it doesn’t necessarily specify a direct isometry between two particular objects.
> 
> ### General Pattern
> 
> In general:
> 
> - **-ic** tends to indicate a specific relationship or property (as in *homotopic* or *isometric*).
> - **-ical** indicates a broader conceptual or theoretical context (as in *homotopical* or, potentially, *isometrical*).
> 
> For your examples, this explains why you would say that a functor is *homotopical* (because it participates in or respects the structure of homotopy theory) but only *homotopic* if it is specifically homotopic to another functor. The same reasoning could be extended to isometries, though "isometrical" is much less common. You’re more likely to encounter "isometric" than "isometrical," since the concept of isometry is often used in a very direct sense.

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md (hunk 112 above)
Comment (malarbol) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md]: > "estimate" is good to me

yes. I think it's the word I was looking for from the beginning.
see 8f2a4e3d79755ec82a2d93516453b8c06ca4a058 for a fix.
I like the dual interpretation "`l` is a limit of `f`" / "`f δ` is an estimate of `l`".

File: src/metric-spaces/equality-of-premetric-spaces.lagda.md (hunk 141 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/equality-of-premetric-spaces.lagda.md]: I'm closing this just to centralize the conversation over the term "isometric". I think we're almost done.

File: src/metric-spaces/equality-of-metric-spaces.lagda.md (hunk 146 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/equality-of-metric-spaces.lagda.md]: I realized the adequate name is  ~equivalent~ invertible isometries. But I still think "isometric equalities" and "isometric equivalences" are ok.

File: src/metric-spaces/isometric-equivalences-premetric-spaces.lagda.md (hunk 145 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/metric-spaces/isometric-equivalences-premetric-spaces.lagda.md]: I removed most occurrences of "isometric" in 7d9a3f20ef4c3edd939a759e60d05e224500085d and 577c389dd377564b79c5461abcea0cdf2be7dbb1.

I think the few remaining ones are ok. I still believe "isometric" is a good adjective to qualify "equalities" or "equivalences" that act isometrically on the metric spaces.

File: src/metric-spaces/short-functions-premetric-spaces.lagda.md [hunk 149]
```diff
@@ -0,0 +1,217 @@
...
+open import metric-spaces.premetric-spaces
+```
+
+</details>
+
+## Idea
+
+A function `f` between [premetric spaces](metric-spaces.premetric-spaces.md) is
+{{#concept "short" Disambiguation="function between premetric spaces" Agda=is-short-function-Premetric-Space}}
+if any of the following three [equivalent](foundation.logical-equivalences.md)
```
Comment (malarbol) [inline src/metric-spaces/short-functions-premetric-spaces.lagda.md:37]: The link to [`foundation.logical-equivalences`](foundation.logical-equivalences.md) seems a bit unnecessary, or even misleading.
I stated the definition this way to illustrate the different interpretations but it's actually the same property with the arguments reordered. And in the module, I don't define separate properties for each concept and go on showing they are equivalent, etc. so I'm not sure it's really relevant to link `foundation.logical-equivalences` here.

File: src/metric-spaces/short-functions-premetric-spaces.lagda.md (hunk 121 above)
Comment (malarbol) [reply src/metric-spaces/short-functions-premetric-spaces.lagda.md]: The link to [foundation.logical-equivalences](https://github.com/UniMath/agda-unimath/pull/foundation.logical-equivalences.md) seems a bit unnecessary, or even misleading.
I stated the definition this way to illustrate the different interpretations but it's actually the same property with the arguments reordered. And in the module, I don't define separate properties for each concept and go on showing they are equivalent, etc. so I'm not sure it's really relevant to link foundation.logical-equivalences here.

**Review by malarbol — COMMENTED** [review]
I had another reread, caught a few more typos, and tried to fix some names, headers, etc. I think we're converging 🚀

File: src/metric-spaces/short-functions-premetric-spaces.lagda.md (hunk 149 above)
Comment (fredrik-bakke) [reply src/metric-spaces/short-functions-premetric-spaces.lagda.md:37]: okay 👍

File: src/metric-spaces/closed-premetric-structures.lagda.md [hunk 150]
```diff
@@ -0,0 +1,385 @@
...
+```
+
+Or, equivalently if for any `(x y : A)`, the subset of
+[upper bounds](metric-spaces.premetric-structures.md) on the distance between
+`x` and `y` is closed on the left:
+
+```text
+For any `ε : ℚ⁺`, if `ε + δ` is an upper bound of the distance between `x` and
+`y` for all `(δ : ℚ⁺)`, then so is `ε`.
+```
```
Comment (fredrik-bakke) [inline src/metric-spaces/closed-premetric-structures.lagda.md:62]: 😱 this is not what I had in mind at all. If we cannot do it with quote blocks I suggest we just go back to not having special blocks at all.

File: src/metric-spaces/isometric-equivalences-premetric-spaces.lagda.md (hunk 145 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/metric-spaces/isometric-equivalences-premetric-spaces.lagda.md]: I fixed the entry naming according to the scheme I laid out

**Comment by fredrik-bakke** [comment]
I pushed a suggestion for an introductory section to metric spaces. I'd like it to mention why one should care about metric spaces and maybe some interesting properties of them, but I don't know what to say about that right now.

**Comment by fredrik-bakke** [comment]
I haven't done a final read-through, but I think this PR is safe to merge. When you give the go-ahead I'll do so

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md [hunk 151]
```diff
@@ -0,0 +1,243 @@
...
+
+  is-prop-is-estimate-cauchy-approximation-Premetric-Space :
+    is-prop is-estimate-cauchy-approximation-Premetric-Space
+  is-prop-is-estimate-cauchy-approximation-Premetric-Space =
+    is-prop-type-Prop is-estimate-prop-cauchy-approximation-Premetric-Space
+```
+
+## Properties
+
+### Limits and estimates of Cauchy approximations are equivalent
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:124]: This statement doesn't make conceptual sense. An _estimate_ should be a limit within some possibly non-zero bound. Maybe it is better to call it a _limiting estimate_?

Comment (fredrik-bakke) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:124]: Again I must reiterate that it is important we don't misuse terms that have a pre-established meaning in the literature. Clearly, an estimate in the sense given here is not an estimate in the sense it is usually understood to be.

**Comment by fredrik-bakke** [comment]
I don't think you should call the locality property that for pseudometrics, btw. It is really extensionality of pseudometrics, while locality is more of a technical condition that happens to coincide with extensionality for pseudometrics.

**Comment by fredrik-bakke** [comment]
I still believe **premetric structures** is a terrible name for that concept, and would again like to lobby for changing it. I believe the term **neighborhood relation** is much more fitting for a couple of reasons:
- it is descriptive and intuitive
- it signalizes that the concept is less structured, in contrast to "premetric"
- it gives the concept, which is very distinct from pseudometrics and metrics, a name that is also more distinct from them.
- it avoids the misinterpretation that "metrics are premetrics which are extensional"

Regarding `Premetric-Space`, an appropriate name would be `Type-With-Neighborhoods`, again signalizing that there may not be any coherence between the type and the neighborhoods, in contrast to the former.

**Comment by fredrik-bakke** [comment]
Saying that a neighborhood relation is a premetric is like saying a binary relation on a type is a preorder structure

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md (hunk 151 above)
Comment (malarbol) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:124]: The way I saw it, the second interpretation states that 
``` 
∀ (ε : ℚ⁺) ∀ (δ : ℚ⁺) (H : le-ℚ⁺ δ ε) → dist (f δ) l ≤ ε
```
So, for small values of `δ`, `f δ` is within a `ε`-neighborhood of `l` , hence an estimate of it (or each one is an estimate of the other, if you add symmetricity).

The canonical example would we a Cauchy approximation `f` in `ℚ` that you compose with `rational-ℝ` to get a Cauchy approximation in `ℝ`. Then the values of `f δ` for small `δ`s will be rational estimates of the limit.

**Comment by malarbol** [comment]
> I still believe **premetric structures** is a terrible name for that concept, and would again like to lobby for changing it. I believe the term **neighborhood relation** is much more fitting for a couple of reasons:
> 
> * it is descriptive and intuitive
> * it signalizes that the concept is less structured, in contrast to "premetric"
> * it gives the concept, which is very distinct from pseudometrics and metrics, a name that is also more distinct from them.
> * it avoids the misinterpretation that "metrics are premetrics which are extensional"
> 
> Regarding `Premetric-Space`, an appropriate name would be `Type-With-Neighborhoods`, again signalizing that there may not be any coherence between the type and the neighborhoods, in contrast to the former.

ok. Give me some time to think of a new name-scheme and I'll come back to you with suggestions, before making any drastic changes this time. (sorry for the mess about isometry / isometric, I think I hadn't really understood what you wanted).

File: src/metric-spaces/equality-of-metric-spaces.lagda.md [hunk 152]
```diff
@@ -0,0 +1,208 @@
...
+## Properties
+
+### Equality of metric spaces is equivalent to isometric equality of their carrier types
+
+```agda
+module _
+  {l1 l2 : Level} (A B : Metric-Space l1 l2)
+  where
+
+  equiv-isometric-eq-Metric-Space : (A ＝ B) ≃ isometric-eq-Metric-Space A B
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-metric-spaces.lagda.md:110]: There's a naming conflict that will arise here, since `equiv-isometric-eq-Metric-Space` is also the name for the entry that produces the underlying equivalence of an isometric equality of metric spaces. So I suggest that we rename this one. I'll push the change

**Comment by fredrik-bakke** [comment]
> ok. Give me some time to think of a new name scheme and I'll come back to you with suggestions, before making any drastic changes this time. (sorry for the mess about isometry/isometric, I think I hadn't really understood what you wanted).

I realized I hadn't been entirely clear in what I meant, so I figured it would be easier to just implement what I meant myself.

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md (hunk 151 above)
Comment (fredrik-bakke) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:124]: If I have, say, the sequence $f(n) = \frac{1}{n}$, then I would say that the number $2^{-10}$ is an estimate of the limit of the sequence, but $2^{-10}$ is not the limit of the sequence. It's a different concept.

Comment (fredrik-bakke) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:124]: Wait, is "being a limit" a property of the approximation `f` or a property of the point `l` as you see it?

File: src/metric-spaces/closed-premetric-structures.lagda.md (hunk 150 above)
Comment (fredrik-bakke) [reply src/metric-spaces/closed-premetric-structures.lagda.md]: Note that guarded blocks, like for instance `text`-blocks, are reserved for code and diagrams. What it means is that markdown should take no liberties in formatting the contents, and it should be typeset in a monospaced font. That's not what we wanted here. @malarbol

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md (hunk 151 above)
Comment (malarbol) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:124]: > Is "being a limit" a property of the approximation `f` or a property of the point `l` as you see it?

Can I say "both" 😅 ? I know it's usually seen as a property of the sequence/function/Cauchy-approximation but, strictly speaking, its a property on pairs `(f , l)`, isn't it? And in some context, it's also useful to fix some `l` and consider "all the sequences with limit `l`" etc.

It's a bit like with premetrics, is `B d x y` a property of `x`, `y` or `d`? Fix `x` and `d`, and you get the ball of center `x` and radius `d`, which is interesting to define topologies, continuity, etc. Fix `x` and `y` and you get the upper bound on distances, indistinguishability, etc. There's no intrinsic point of view.

> If I have, say, the sequence $f(n)=\frac{1}{n'}$ , then I would say that the number $2^{-10}$ is an estimate of the limit of the sequence, but $2^{-10}$ is not the limit of the sequence. It's a different concept.

Well, yeah $2^{-10} = f(2^{10})$ is an estimate of the limit, and so is $f(N)$ for $N > 2^{10}$ I guess, in the same way $f(\delta)$ is an estimate of the limit of a convergent Cauchy approximation, for small $\delta$ 's. (Keep in mind that Cauchy approximations converge with $r \rightarrow 0$ in $\mathbb{Q}^+$ unlike sequences that converge with $n \rightarrow +\infty$).

Comment (malarbol) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:124]: So yeah, this should probably be read as "`l` is a limit of `f` iff `f` is an estimate of `l`, provided I've given sense to what "being an estimate" means. 

Maybe we should start with that: given a value $l$ in a metric space $M$, an _estimate_ of $l$ is a map $f~:~ \mathbb{Q}^{+} \rightarrow M$ such that ... (same definition as limit). Then with good circumstances, any _estimate_ will be a Cauchy approximation, and then we can ask ourselves "when do Cauchy approximation have a limit", etc. These are just random thoughts, and this definitely doesn't solve my naming problem, but it may be something to consider.

**Comment by malarbol** [comment]
> I still believe **premetric structures** is a terrible name for that concept, and would again like to lobby for changing it. I believe the term **neighborhood relation** is much more fitting for a couple of reasons:

I'm starting to think it's not a good concept _at all_ (at least for this module), and that we should only consider **neighborhood relations** that are **reflexive**, **monotonic** families $\mathbb{Q}^{+} \rightarrow M \rightarrow M \rightarrow Prop~l$. 

reflexivity and monotonicity are the basic properties that fit the distance/neighborhood interpretation:
- any point is a neighbor of itself
- enlarging neighborhoods doesn't forget neighbors

Reflexivity is used for almost all interesting properties of "premetrics", and gives a minimal notion of coherence between the neighborhood structure to the carrier type (making it a real structure more than just a "decorator"). Monotonicity is also used a lot; and adding it kind of justifies the use of $\mathbb{Q}^{+}$ instead of just any families $X \rightarrow M \rightarrow M \rightarrow Prop~l$: we want the type family of relations to also be "structured by $\mathbb{Q}^{+}$" to be called a **neighborhood relation**. 

Then `Neighborhood-Space` would be type of "type equipped with a neighborhood structure" and the other structures would be substructures of this one. We could rename **pseudometric spaces** to **premetric spaces** (maybe explaining why we disagree with wikipedia) and **metric space** would now be "extensional premetric spaces" as they always should have.

**Comment by malarbol** [comment]
non-reflexive or non-monotonic families of relations are probably interesting too, but maybe not in the `metric-spaces` module.

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md (hunk 151 above)
Comment (fredrik-bakke) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:124]: Why wouldn't you say just _$f$ approximates $l$_, or _$f$ converges at $l$_? I don't understand why you want to use a new word for this that has a different meaning.

**Comment by fredrik-bakke** [comment]
Hmm, does Auke not prove anything useful/interesting about premetrics in his thesis?

**Comment by fredrik-bakke** [comment]
> reflexivity and monotonicity are the basic properties that fit the distance/neighborhood interpretation:
> 
> * any point is a neighbor of itself
> * enlarging neighborhoods doesn't forget neighbors

Sounds like you like [filters](https://ncatlab.org/nlab/show/filter) :)

**Comment by fredrik-bakke** [comment]
> And I wonder if we should include "symmetry" in the definition of **neighborhood relation** too. It's also useful for many interesting properties, and, as mentioned before, there's a canonical "symmetrization" of a neighborhood relation, characterized as the minimal symmetric neighborhood relation coarser that it (just define `B' d x y = (B d x y) ∨ (B d y x)`) and the "symmetrization" acts functorially on isometries, short maps, and such.
> 
> It looks like you can actually do something similar with reflexivity (define `B' d x y = (trunc-Prop (x ＝ y)) ∨ B d x y`) and for monotonicity (define `B' d x y = ∃ ℚ⁺ (λ r → product-Prop (leq-prop-ℚ⁺ r d) (B r x y))`) so we might as well just assume them all from the beginning.

This sounds like a good argument for disregarding premetrics, yes. You could provide a series of modules that, given a "neighborhood relation" in the end give the universal pseudometric, and then after that always operate with pseudometrics.

**Comment by fredrik-bakke** [comment]
> We could rename **pseudometric spaces** to **premetric spaces** (maybe explaining why we disagree with wikipedia) and **metric space** would now be "extensional premetric spaces" as they always should have.

I'm a bit hesitant to agree with this suggestion. "Pseudometric" seems to be pretty widely used. And "premetric" is at times used for weaker concepts than pseudometrics evidently.

**Comment by malarbol** [comment]
> Hmm, does Auke not prove anything useful/interesting about premetrics in his thesis?

It's mostly about real numbers, so the standard premetrics on $\mathbb{Q}$, $\mathbb{R}$, Cauchy structures, etc. I don't know if there are results on generic premetrics. They does mention the following (p.81-82):

>Note the outright lack of natural conditions one might put on∼: our premetric spaces
are a very wild notion. In fact, having few conditions here is a good thing, as any conditions
introduced now would need to be respected later by the induction principle in Definition 4.5.12,
thus making that induction principle harder to use.

but I'm not sure what to make of it.

**Comment by malarbol** [comment]
it's also related to what Martín Escardó calls [`generalized-metric-space`](https://www.cs.bham.ac.uk/~mhe/HoTT-UF-in-Agda-Lecture-Notes/HoTT-UF-Agda.html#413942) (here, with $R = (\mathbb{Q}^{+} \rightarrow Prop~l)$ ). 

I don't know if it can help us. Like maybe I should write things on `generalized-metric-space` and then apply them to the case $(\mathbb{Q}^{+} \rightarrow Prop~l)$ ?

**Comment by malarbol** [comment]
and here: https://www.researchgate.net/publication/343732184_Completion_of_premetric_spaces/fulltext/5f3c92fc92851cd302037f27/Completion-of-premetric-spaces.pdf they call **premetric space** what I call a **saturated metric space**, which doesn't really help neither.

**Comment by malarbol** [comment]
> and here: https://www.researchgate.net/publication/343732184_Completion_of_premetric_spaces/fulltext/5f3c92fc92851cd302037f27/Completion-of-premetric-spaces.pdf they call **premetric space** what I call a **saturated metric space**, which doesn't really help neither.

and, BTW, _they_ also call our **isometries**, **isometric embeddings** and reserve the term **isometry** for **isometric equivalences**. Should we rename our **isometries**, `isometric-map-Metric-Space`?

**Comment by fredrik-bakke** [comment]
> it's also related to what Martín Escardó calls [`generalized-metric-space`](https://www.cs.bham.ac.uk/~mhe/HoTT-UF-in-Agda-Lecture-Notes/HoTT-UF-Agda.html#413942) (here, with R = ( Q + → P r o p   l ) ).
> 
> I don't know if it can help us. Like maybe I should write things on `generalized-metric-space` and then apply them to the case ( Q + → P r o p   l ) ?

At that point I don't see why you wouldn't use some other even more general concept like filters instead of "metrics" in a generalized sense. You have to decide what your fundament for study is at some point. Unless you give a good reason why you want to generalize the concept right now, I don't see a reason to do this.

**Comment by fredrik-bakke** [comment]
> and here: https://www.researchgate.net/publication/343732184_Completion_of_premetric_spaces/fulltext/5f3c92fc92851cd302037f27/Completion-of-premetric-spaces.pdf they call **premetric space** what I call a **saturated metric space**, which doesn't really help neither.

I think we can safely establish that "premetric" is both a bad term and an overloaded one. Again, we should conclude that we shouldn't use the term

**Comment by fredrik-bakke** [comment]
> > and here: https://www.researchgate.net/publication/343732184_Completion_of_premetric_spaces/fulltext/5f3c92fc92851cd302037f27/Completion-of-premetric-spaces.pdf they call **premetric space** what I call a **saturated metric space**, which doesn't really help neither.
> 
> and, BTW, _they_ also call our **isometries**, **isometric embeddings** and reserve the term **isometry** for **isometric equivalences**. Should we rename our **isometries**, `isometric-map-Metric-Space`?

You're talking about a paper with 0 citations. I see no reason to make an effort to make our terminology cohere with theirs

**Comment by fredrik-bakke** [comment]
I just wanted to get this PR merged with a simple naming change for premetrics. I don't understand why we have to reconsider the basis of the contribution so late in the review process

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md (hunk 151 above)
Comment (fredrik-bakke) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md:124]: Yes!

**Comment by malarbol** [comment]
> I just wanted to get this PR merged with a simple naming change for premetrics. I don't understand why we have to reconsider the basis of the contribution so late in the review process

I'm really sorry. I think I got some last-minute doubts about my contribution. As I said some other times, I don't wan't to contaminate the library with some bad concepts, abstractions, etc. We'll fix these name problems and get it merged.

> I realized I hadn't been entirely clear in what I meant, so I figured it would be easier to just implement what I meant myself.

have you started to work on new names for `Neighborhood-Relation`, `Type-With-Neighborhoods`, etc. or do you want me to give it a try?

File: src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md (hunk 151 above)
Comment (malarbol) [reply src/metric-spaces/limits-of-cauchy-approximations-in-premetric-spaces.lagda.md]: see 8be1a4f83bbe4aa51f11cd8002a9fda2c9fb9333

**Comment by malarbol** [comment]
> This sounds like a good argument for disregarding premetrics, yes. You could provide a series of modules that, given a neighborhood relation in the end give the universal pseudometric, and then after that always operate with pseudometrics.
> 
> EDIT: This depends a bit on whether the theory has applications to things that don't satisfy all of these properties, though.

I'll definitely give it some thoughts but I won't include anything more in this PR.

**Comment by EgbertRijke** [comment]
Hi! I just had a quick glance at your pull request, in particular at the file about premetric structures. Let me note that:
- The _concept_ seems sensible: It predicates whether two elements are at most the distance of a given positive rational number apart. I'm happy to have it included in the library.
- As I understand it, there is some debate about whether to use the name "premetric" for this concept. Fredrik has a point that it is not a generally accepted name for this concept, and the article that was cited isn't referenced. I agree with this, but I am in favor of keeping the name "premetric" for now.
- I am extremely grateful to see some developments in this direction. It is very important for agda-unimath to have a development in this direction. When writing infrastructure for a new area of mathematics, it should not be expected that we get it 100% right at the first time. The metric spaces formalization will get better over time, with more people using it. So I am not worried that there is a notion of premetric in this PR, and don't think the PR should be held up because of it.

Thank you so much for this huge contribution, and for all your time and effort that went into this. This is a very worthwhile pull request that opens a new direction of formalization for agda-unimath. If you are happy with it, let's merge it.

Thanks also to @fredrik-bakke for his extensive reviewing!

**Comment by fredrik-bakke** [comment]
> have you started working on new names for `Neighborhood-Relation`, `Type-With-Neighborhoods`, etc. or do you want me to give it a try?

I don't see anything wrong with these names. But I also agree with Egbert that it is time to merge this PR - sooner rather than later.

**Comment by fredrik-bakke** [comment]
> As I understand it, there is some debate about whether to use the name "premetric" for this concept. Fredrik has a point that it is not a generally accepted name for this concept, and the article that was cited isn't referenced. I agree with this, but I am in favor of keeping the name "premetric" for now.

To my understanding we all agree there should be a better name for this concept. As Francois points out, the cited article uses "premetric" to mean something else

**Comment by fredrik-bakke** [comment]
I also concur with Egbert that this is a contribution of very high quality that will indeed improve the overall quality of the library.

**Comment by malarbol** [comment]
Thanks a lot for your kind comments. 

> I don't see anything wrong with these names. But I also agree with Egbert that it is time to merge this PR - sooner rather than later.

I think I mixed-up some comments and, for some moment, I thought you had also started to implement this new name scheme (your comment was actually about isometry/isometric).

If you are ok with it, we can merge it as it is now, and open a new issue where we could discuss better names.

**Comment by fredrik-bakke** [comment]
Very good! Since every conversation has been resolved, let's merge this PR. Further changes can be considered in a subsequent PR. Thanks again for this huge contribution!
